2158-03-06 08:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: resp distress
   24 Hour Events:
   Pt became hypotenensive to 70s sbp throughout the night, pt required
   about 2L of fluid resuscitation .
   Surgery tried to place NG but pt refused for possible SBO
   A-line was placed
   Bladder pressure was 24
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-5**] 11:50 PM
   Vancomycin - [**2158-3-6**] 07:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-3-5**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-6**] 08:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.3
C (97.3
   HR: 109 (102 - 126) bpm
   BP: 95/50(66) {95/50(66) - 110/63(79)} mmHg
   RR: 25 (20 - 43) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    Bladder pressure: 24 (24 - 24) mmHg
   Total In:
                                                                    333 mL
                                                                  2,286 mL
   PO:
   TF:
   IVF:
                                                                    333 mL
                                                                  2,286 mL
   Blood products:
   Total out:
                                                                  1,020 mL
                                                                    200 mL
   Urine:
                                                                    220 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -687 mL
                                                                  2,086 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: 7.33/44/84.[**Numeric Identifier 1132**]/23/-2
   PaO2 / FiO2: 84
   Physical Examination
   GENERAL: Pleasant, well appearing female in resp distress
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].  JVP=flat
   LUNGS: poor air movement, rales
   ABDOMEN: hypoactive BS. Distended, TTP at incision site  No HSM
   EXTREMITIES: trace edema at ankles. 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   256 K/uL
   10.6 g/dL
   86 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.5 mEq/L
   19 mg/dL
   101 mEq/L
   132 mEq/L
   30.1 %
   5.2 K/uL
        [image002.jpg]
                             [**2158-3-6**]  12:12 AM
                             [**2158-3-6**]  12:50 AM
                             [**2158-3-6**]  04:34 AM
                             [**2158-3-6**]  06:32 AM
   WBC
   5.2
   Hct
   29.7
   30.1
   Plt
   256
   Cr
   0.8
   TCO2
   27
   24
   Glucose
   86
   Other labs: PT / PTT / INR:17.3/45.9/1.6, CK / CKMB / Troponin-T:270//,
   ALT / AST:17/29, Alk Phos / T Bili:75/1.0, D-dimer:1380 ng/mL,
   Fibrinogen:620 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL,
   Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   54yoF pod #3 from transverse colectomy, hx pad, emphysema, ethanol
   abuse, transferred for hypoxemic respiratory failure.
   .
   # Hypoxemic respiratory failure- Pt has atelectasis and decreased lung
   volume from abd pushing up. Started POD#2, with hypoxia on NC. DDx
   includes PE, but CTA is negative and pt is on SQH. Pt may have become
   fluid overloaded s/p 4u PRBC. Pt shows moderate pleural effusions that
   were not present on the CT scan on [**2-22**]. TRALI syndrome also a
   possiblity, which has been known to occur upto 6 hours after blood
   transfusion. Infection unlikely w/o wbc and infiltrate on CT. Pt also
   shows atalectasis that may be contributing.  Pt
s most latest AGB shows
   resp acidosis, so pt may be tiring out. Pt is also becoming
   intermittently confused and shows asterixis.
   - will intubate
   - vent settings Vt 450, minute ventilation 14, FiO2 50%, PEEP
   5
   - will fluid ressusitate in preparation for intubation.
   - recheck lactate
   - will also get urine cx, blood cx.
    #  Peritonitis
 likely [**1-30**] anastomotic leak around incision. Pt
s abd
   becoming more ttp. Pt also becming hypotensive.  Pt
s CT abd/pelvis was
   not read to have fluid extravasation. Pt also has pneumoperitioneum.
   - will adequately fluid resussicate
   - surgery will take to the OR today
   - cont checking lactate.
   # [**Name (NI) 4643**] pt
s HR 130s, in sinus tach on  EKG. Also pt
s BP
   dropped to 80/60.
   - will give 250 bolus and check for improvement
   .
   # Etoh withdrawl
 will d/c  valium 5 q4, CIWA >10 since intubated
   .
   # COPD- none at home
   - alb/ipratrop nebs
   - may add Advair
   .
   #. Anemia
 stable Hct > 30.
   .
   fEN: NPO, keep mg>2, k>4
   PPX:
   -DVT ppx with hep sq
   -Bowel regimen
   .
   ACCESS: pIV's
   CODE STATUS: full
   EMERGENCY CONTACT:
   DISPOSITION: ICU until stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-3-5**] 09:12 PM
   18 Gauge - [**2158-3-6**] 06:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-03-07 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 54yoF pod #3 from transverse colectomy, hx pad,
   emphysema, ethanol abuse, transferred for hypoxemic respiratory
   failure.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2158-3-6**] 10:30 AM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2158-3-6**] 11:45 AM
 INVASIVE VENTILATION - STOP [**2158-3-6**] 11:46 AM
 INVASIVE VENTILATION - START [**2158-3-6**] 11:50 AM
 OR SENT - At [**2158-3-6**] 12:10 PM
 MULTI LUMEN - START [**2158-3-6**] 10:00 PM
 PAN CULTURE - At [**2158-3-7**] 04:15 AM
 FEVER - 101.4
F - [**2158-3-7**] 04:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2158-3-6**] 09:14 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-7**] 12:51 AM
   Fluconazole - [**2158-3-7**] 04:14 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Fentanyl - [**2158-3-6**] 07:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-7**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.3
C (101
   HR: 113 (104 - 137) bpm
   BP: 90/50(64) {86/45(59) - 115/62(82)} mmHg
   RR: 21 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 15 (7 - 24)mmHg
   Bladder pressure: 24 (22 - 28) mmHg
                                Total In:
                                                                 11,761 mL
                                                                  6,205 mL
   PO:
                                TF:
   IVF:
                                                                 11,011 mL
                                                                  5,443 mL
   Blood products:
                                                                    750 mL
                                                                    761 mL
   Total out:
                                                                  1,862 mL
                                                                    335 mL
   Urine:
                                                                    537 mL
                                                                    185 mL
   NG:
   150 mL
   Stool:
   Drains:
   Balance:
                                                                  9,899 mL
                                                                  5,870 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (549 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 31 cmH2O
   SpO2: 97%
   ABG: 7.32/42/81.[**Numeric Identifier 8**]/19/-4
   Ve: 9.5 L/min
   PaO2 / FiO2: 137
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   315 K/uL
   9.6 g/dL
   69 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.6 mEq/L
   19 mg/dL
   108 mEq/L
   134 mEq/L
   27.1 %
   11.9 K/uL
        [image002.jpg]
                             [**2158-3-6**]  04:38 PM
                             [**2158-3-6**]  06:42 PM
                             [**2158-3-6**]  08:12 PM
                             [**2158-3-6**]  10:00 PM
                             [**2158-3-6**]  10:50 PM
                             [**2158-3-7**]  12:25 AM
                             [**2158-3-7**]  12:52 AM
                             [**2158-3-7**]  02:15 AM
                             [**2158-3-7**]  04:59 AM
                             [**2158-3-7**]  05:13 AM
   WBC
   3.5
   4.0
   5.0
   11.9
   Hct
   31.3
   27.2
   27.6
   27.1
   Plt
   [**Telephone/Fax (3) 4678**]15
   Cr
   0.8
   0.9
   1.0
   TropT
   0.02
   TCO2
   22
   23
   23
   22
   22
   23
   Glucose
   91
   86
   69
   Other labs: PT / PTT / INR:18.0/47.9/1.6, CK / CKMB /
   Troponin-T:668/11/0.02, ALT / AST:13/35, Alk Phos / T Bili:37/1.7,
   D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:3.2 mmol/L,
   Albumin:1.8 g/dL, LDH:148 IU/L, Ca++:6.1 mg/dL, Mg++:1.4 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 DYSPNEA (SHORTNESS OF BREATH)
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   54yoF pod #3 from transverse colectomy, hx pad, emphysema, ethanol
   abuse, transferred for hypoxemic respiratory failure.
   # Hypoxemic respiratory failure- Pt has atelectasis and decreased lung
   volume from abd pushing up. Started POD#2, with hypoxia on NC. DDx
   includes PE, but CTA is negative and pt is on SQH. Pt may have become
   fluid overloaded s/p 4u PRBC. Pt shows moderate pleural effusions that
   were not present on the CT scan on [**2-22**]. TRALI syndrome also a
   possiblity, which has been known to occur upto 6 hours after blood
   transfusion. Infection unlikely w/o wbc and infiltrate on CT. Pt also
   shows atalectasis that may be contributing.  Pt
s most latest AGB shows
   resp acidosis, so pt may be tiring out. Pt is also becoming
   intermittently confused and shows asterixis.
   - will intubate
   - vent settings Vt 450, minute ventilation 14, FiO2 50%, PEEP
   5
   - will fluid ressusitate in preparation for intubation.
   - recheck lactate
   - will also get urine cx, blood cx.
    #  Peritonitis
 likely [**1-30**] anastomotic leak around incision. Pt
s abd
   becoming more ttp. Pt also becming hypotensive.  Pt
s CT abd/pelvis was
   not read to have fluid extravasation. Pt also has pneumoperitioneum.
   - will adequately fluid resussicate
   - surgery will take to the OR today
   - cont checking lactate.
   # [**Name (NI) 4643**] pt
s HR 130s, in sinus tach on  EKG. Also pt
s BP
   dropped to 80/60.
   - will give 250 bolus and check for improvement
   # Etoh withdrawl
 will d/c  valium 5 q4, CIWA >10 since intubated
   # COPD- none at home
   - alb/ipratrop nebs
   - may add Advair
   #. Anemia
 stable Hct > 30.
   fEN: NPO, keep mg>2, k>4
   PPX:
   -DVT ppx with hep sq
   -Bowel regimen
   ACCESS: pIV's
   CODE STATUS: full
   EMERGENCY CONTACT:
   DISPOSITION: ICU until stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-3-5**] 09:11 PM
   Arterial Line - [**2158-3-6**] 06:00 AM
   18 Gauge - [**2158-3-6**] 06:00 AM
   Multi Lumen - [**2158-3-6**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-03-07 11:00:00 Physician Resident Progress Note
Chief Complaint: 54yoF pod #3 from transverse colectomy, hx pad,
   emphysema, ethanol abuse, transferred for hypoxemic respiratory
   failure.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2158-3-6**] 10:30 AM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2158-3-6**] 11:45 AM
 INVASIVE VENTILATION - STOP [**2158-3-6**] 11:46 AM
 INVASIVE VENTILATION - START [**2158-3-6**] 11:50 AM
 OR SENT - At [**2158-3-6**] 12:10 PM
 MULTI LUMEN - START [**2158-3-6**] 10:00 PM
 PAN CULTURE - At [**2158-3-7**] 04:15 AM
 FEVER - 101.4
F - [**2158-3-7**] 04:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2158-3-7**] 04:14 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-7**] 08:12 AM
   Vancomycin - [**2158-3-7**] 08:45 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2158-3-6**] 07:46 PM
   Famotidine (Pepcid) - [**2158-3-7**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2158-3-7**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-7**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.9
C (100.2
   HR: 106 (104 - 137) bpm
   BP: 107/68(82) {86/45(59) - 115/68(82)} mmHg
   RR: 21 (15 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 18 (7 - 24)mmHg
   CO/CI (Fick): (10.2 L/min) / (5.7 L/min/m2)
   Bladder pressure: 24 (22 - 28) mmHg
   Mixed Venous O2% Sat: 80 - 80
                                Total In:
                                                                 11,761 mL
                                                                  7,441 mL
   PO:
                                TF:
   IVF:
                                                                 11,011 mL
                                                                  6,666 mL
   Blood products:
                                                                    750 mL
                                                                    775 mL
   Total out:
                                                                  1,862 mL
                                                                    430 mL
   Urine:
                                                                    537 mL
                                                                    280 mL
   NG:
   150 mL
   Stool:
   Drains:
   Balance:
                                                                  9,899 mL
                                                                  7,011 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (549 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   SpO2: 96%
   ABG: 7.35/38/86.[**Numeric Identifier **]/19/-3
   Ve: 9.4 L/min
   PaO2 / FiO2: 145
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), Ventilated
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   Firmness in R and L UQ, with stoma in place, pink
   Extremities: Right: Absent, Left: Absent, Cool
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   315 K/uL
   9.6 g/dL
   69 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.6 mEq/L
   19 mg/dL
   108 mEq/L
   134 mEq/L
   27.1 %
   11.9 K/uL
        [image002.jpg]
                             [**2158-3-6**]  06:42 PM
                             [**2158-3-6**]  08:12 PM
                             [**2158-3-6**]  10:00 PM
                             [**2158-3-6**]  10:50 PM
                             [**2158-3-7**]  12:25 AM
                             [**2158-3-7**]  12:52 AM
                             [**2158-3-7**]  02:15 AM
                             [**2158-3-7**]  04:59 AM
                             [**2158-3-7**]  05:13 AM
                             [**2158-3-7**]  08:23 AM
   WBC
   3.5
   4.0
   5.0
   11.9
   Hct
   31.3
   27.2
   27.6
   27.1
   Plt
   [**Telephone/Fax (3) 4678**]15
   Cr
   0.8
   0.9
   1.0
   TropT
   0.02
   TCO2
   23
   23
   22
   22
   23
   22
   Glucose
   91
   86
   69
   Other labs: PT / PTT / INR:18.0/47.9/1.6, CK / CKMB /
   Troponin-T:668/11/0.02, ALT / AST:13/35, Alk Phos / T Bili:37/1.7,
   D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:1.8 g/dL, LDH:148 IU/L, Ca++:6.1 mg/dL, Mg++:1.4 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   54yoF pod #3 from transverse colectomy, hx pad, emphysema, ethanol
   abuse, transferred for hypoxemic respiratory failure.
   # SEPSIS: Pt now in septic shock, likely secondary to bowel organism
   - Continue norepinephrine, vasopressin for MAP>60
   - Continue IVF/p RBCs for hypotension, CVP<12, or tachycardia
   - Continue vanc, zosyn and fluconazole for broad spectrum abx coverage
   - pt now has right subclavian line placed [**3-6**]
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   - Has occurred in the setting of volume overload and increasing
   abdominal distention. Currently oxygenating and ventilating
   appropriately on current vent settings.
   - continue q3h ABGs
   - continue home nebs
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   - Now s/p  transverse colectomy ([**3-2**]) and c/b anastomotic bleed then
   leak , then  s/p ex lap, R colectomy, end ileostomy, Hartmann's
   procedure  ([**3-6**])
   - Hct now stable, abdominal distention stable
   - Appreciate [**Doctor First Name **] recs
   - q8h hct, lytes
 HYPOTENSION (NOT SHOCK)
   - Please see sepsis management as above. Hypotension likely secondary
   to sepsis, do not suspect cardiogenic shock.
   # ARF: Creatinine worsening, likely secondary to hypoperfusion
   - Goal as above for MAP>60
   - q8h lytes and Cr
   # Cardiac function: Unknown baseline BP, cardiac function.
   - Call PCP [**Last Name (NamePattern4) **]: bp
   - Check TTE
   - Hold lopressor for now
   fEN: NPO, keep mg>2, k>4
   PPX:
   -DVT ppx with hep sq
   -Bowel regimen
   ACCESS: pIV's, R subclavian
   CODE STATUS: full
   EMERGENCY CONTACT: Sister
   DISPOSITION: ICU until stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-3-5**] 09:11 PM
   Arterial Line - [**2158-3-6**] 06:00 AM
   18 Gauge - [**2158-3-6**] 06:00 AM
   Multi Lumen - [**2158-3-6**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Vol resus overnight.  Continues on low dose of levophed. Oxygenation
   adequate on FIO2 0.6
 we are implementing ARDS Net tidal volumes and
   will increase her PEEP to allow reduction in FIO2 to less than 0.5.
   Remains febrile and VO2 and VCO2 are high.
   Time spent 45 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2158-3-7**] 18:54 ------

2158-03-09 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 54yoF from transverse colectomy, hx pad, emphysema,
   ethanol abuse, transferred for hypoxemic respiratory failure.
   24 Hour Events:
   - pt given colloid- Albumin 25g after UOP near 30-40cc, w/o signifcant
   change
   - restarted vasopresin, then later levophed
   - f/u hct 25.6 stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-8**] 04:03 PM
   Vancomycin - [**2158-3-9**] 12:00 AM
   Fluconazole - [**2158-3-9**] 04:11 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2158-3-8**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-3-8**] 08:00 PM
   Fentanyl - [**2158-3-9**] 01:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-9**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.6
   HR: 85 (82 - 102) bpm
   BP: 101/56(73) {81/45(58) - 122/61(80)} mmHg
   RR: 24 (20 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 130.5 kg (admission): 69.2 kg
   Height: 66 Inch
    CVP: 17 (14 - 21)mmHg
   Bladder pressure: 18 (18 - 24) mmHg
   Total In:
                                                                  2,640 mL
                                                                    708 mL
   PO:
   TF:
   IVF:
                                                                  2,590 mL
                                                                    708 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  2,015 mL
                                                                    645 mL
   Urine:
                                                                  1,915 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    625 mL
                                                                     63 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 25
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/37/139/23/0
   Ve: 9.4 L/min
   PaO2 / FiO2: 278
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), Ventilated
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   Firmness in R and L UQ, with stoma in place, pink
   Extremities: Right: Absent, Left: Absent, Cool
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   184 K/uL
   8.6 g/dL
   90 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.5 mEq/L
   15 mg/dL
   104 mEq/L
   135 mEq/L
   25.6 %
   8.6 K/uL
        [image002.jpg]
                             [**2158-3-8**]  12:09 AM
                             [**2158-3-8**]  03:43 AM
                             [**2158-3-8**]  04:08 AM
                             [**2158-3-8**]  11:55 AM
                             [**2158-3-8**]  12:07 PM
                             [**2158-3-8**]  07:33 PM
                             [**2158-3-8**]  08:09 PM
                             [**2158-3-9**]  12:10 AM
                             [**2158-3-9**]  03:47 AM
                             [**2158-3-9**]  04:10 AM
   WBC
   11.7
   8.6
   Hct
   27.1
   25.6
   30
   25.6
   Plt
   236
   184
   Cr
   1.1
   0.9
   0.7
   TCO2
   23
   23
   24
   25
   20
   24
   Glucose
   104
   100
   90
   Other labs: PT / PTT / INR:15.8/46.1/1.4, CK / CKMB /
   Troponin-T:668/11/0.02, ALT / AST:16/43, Alk Phos / T Bili:72/3.5,
   Differential-Neuts:85.0 %, Band:2.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0
   %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.4 g/dL, LDH:158 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   54yoF from transverse colectomy, hx pad, emphysema, ethanol abuse,
   transferred for hypoxemic respiratory failure.
 ELECTROLYTE & FLUID DISORDER, OTHER
   - Hyponatremia resolved.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   - Weaning pressors, goal MAP>50-60
   - Continue vanc, zosyn and fluconazole for broad spectrum abx coverage
   - pt now has right subclavian line placed [**3-6**]
   - Minimizing IVF given pt +9L
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) Creatinine improved,
   was likely secondary to hypoperfusion
   - Goal as above for MAP>60
   - q8h lytes and Cr
 ALCOHOL ABUSE
   - Currently on midazolam for intubation
   - CIWA when extubated
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   - Hct stable now at 25, no e/o hemolysis
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
   - Has occurred in the setting of volume overload and increasing
   abdominal distention.
   - Decrease FiO2, continue PEEP of 10
   - continue q8h ABGs
   - continue home nebs
 PERITONITIS (NON-SBP)
   -See sepsis
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   - Now s/p  transverse colectomy ([**3-2**]) and c/b anastomotic bleed then
   leak , then  s/p ex lap, R colectomy, end ileostomy, Hartmann's
   procedure  ([**3-6**])
   - Hct now stable, abdominal distention stable
   - Appreciate [**Doctor First Name **] recs
   - q8h hct, lytes
   # Hyperbilirubinemia, Direct: ? secondary to obstruction, although no
   other LFT abnormality. No e/o hemolysis as no indirect
   hyperbilirubinemia, and LDH is normal.
   - Trend bili
   - Consider RUQ US if worsening clinically
   # Cardiac function: Unknown baseline BP, cardiac function.
   - TTE showed nl EF
   - Hold lopressor for now
   fEN: NPO, keep mg>2, k>4
   PPX:
   -DVT ppx with hep sq
   -Bowel regimen
    ACCESS: pIV's, R subclavian
    CODE STATUS: full
   EMERGENCY CONTACT: Sister
    DISPOSITION: ICU until stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-3-6**] 06:00 AM
   Multi Lumen - [**2158-3-6**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-03-10 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   54yoF from transverse colectomy, hx pad, emphysema, ethanol abuse,
   transferred for hypoxemic respiratory failure.
   24 Hour Events:
   - U/o excellent with lasix 10 IV
   - Off pressors
   - Goal u/o per [**Doctor First Name **] is 100cc/h, redose lasix when u/o drops below
   100cc/h
   - NGT in right place
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-8**] 04:03 PM
   Vancomycin - [**2158-3-9**] 09:19 PM
   Piperacillin - [**2158-3-10**] 12:15 AM
   Fluconazole - [**2158-3-10**] 04:18 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2158-3-9**] 08:38 PM
   Fentanyl - [**2158-3-10**] 04:09 AM
   Midazolam (Versed) - [**2158-3-10**] 05:09 AM
   Furosemide (Lasix) - [**2158-3-10**] 05:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-10**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 96 (82 - 97) bpm
   BP: 114/73(90) {91/50(19) - 137/74(91)} mmHg
   RR: 32 (22 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 130.5 kg (admission): 69.2 kg
   Height: 66 Inch
    CVP: 24 (15 - 344)mmHg
   Total In:
                                                                  1,670 mL
                                                                    368 mL
   PO:
   TF:
   IVF:
                                                                  1,670 mL
                                                                    368 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                    670 mL
   Urine:
                                                                  2,385 mL
                                                                    670 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                   -865 mL
                                                                   -302 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 5
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.49/33/96.[**Numeric Identifier 274**]/25/2
   Ve: 10 L/min
   PaO2 / FiO2: 194
   Physical Examination
   GENERAL: Pleasant, well appearing female in mild resp distress
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].  JVP=flat
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: hypoactive BS. Distended, TTP at incision site  No HSM
   EXTREMITIES: trace edema at ankles. 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   186 K/uL
   8.9 g/dL
   80 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.1 mEq/L
   9 mg/dL
   104 mEq/L
   138 mEq/L
   25.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2158-3-8**]  07:33 PM
                             [**2158-3-8**]  08:09 PM
                             [**2158-3-9**]  12:10 AM
                             [**2158-3-9**]  03:47 AM
                             [**2158-3-9**]  04:10 AM
                             [**2158-3-9**]  11:48 AM
                             [**2158-3-9**]  09:23 PM
                             [**2158-3-9**]  10:38 PM
                             [**2158-3-10**]  05:11 AM
                             [**2158-3-10**]  05:26 AM
   WBC
   8.6
   8.8
   Hct
   25.6
   30
   25.6
   25.5
   25.0
   25.4
   Plt
   184
   186
   Cr
   0.7
   0.6
   0.5
   TCO2
   25
   20
   24
   25
   26
   Glucose
   90
   90
   80
   Other labs: PT / PTT / INR:15.8/46.1/1.4, CK / CKMB /
   Troponin-T:668/11/0.02, ALT / AST:18/48, Alk Phos / T Bili:87/3.2,
   Differential-Neuts:85.0 %, Band:2.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0
   %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.4 g/dL, LDH:189 IU/L, Ca++:8.6 mg/dL, Mg++:1.5 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALCOHOL ABUSE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 PERITONITIS (NON-SBP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   54yoF from transverse colectomy, hx pad, emphysema, ethanol abuse,
   transferred for hypoxemic respiratory failure.
 ELECTROLYTE & FLUID DISORDER, OTHER
   - Hyponatremia resolved.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   - Weaning pressors, goal MAP>50-60
   - Continue vanc, zosyn and fluconazole for broad spectrum abx coverage
   - pt now has right subclavian line placed [**3-6**]
   - Minimizing IVF given pt +9L
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) Creatinine improved,
   was likely secondary to hypoperfusion
   - Goal as above for MAP>60
   - q8h lytes and Cr
 ALCOHOL ABUSE
   - Currently on midazolam for intubation
   - CIWA when extubated
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   - Hct stable now at 25, no e/o hemolysis
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
   - Has occurred in the setting of volume overload and increasing
   abdominal distention.
   - Decrease FiO2, continue PEEP of 10
   - continue q8h ABGs
   - continue home nebs
 PERITONITIS (NON-SBP)
   -See sepsis
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   - Now s/p  transverse colectomy ([**3-2**]) and c/b anastomotic bleed then
   leak , then  s/p ex lap, R colectomy, end ileostomy, Hartmann's
   procedure  ([**3-6**])
   - Hct now stable, abdominal distention stable
   - Appreciate [**Doctor First Name **] recs
   - q8h hct, lytes
   # Hyperbilirubinemia, Direct: ? secondary to obstruction, although no
   other LFT abnormality. No e/o hemolysis as no indirect
   hyperbilirubinemia, and LDH is normal.
   - Trend bili
   - Consider RUQ US if worsening clinically
   # Cardiac function: Unknown baseline BP, cardiac function.
   - TTE showed nl EF
   - Hold lopressor for now
   fEN: NPO, keep mg>2, k>4
   PPX:
   -DVT ppx with hep sq
   -Bowel regimen
    ACCESS: pIV's, R subclavian
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-3-6**] 06:00 AM
   Multi Lumen - [**2158-3-6**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2158-03-11 07:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   54yoF from transverse colectomy, hx pad, emphysema, ethanol abuse,
   transferred for hypoxemic respiratory failure.
   24 Hour Events:
   - diuresed a lot
   - this am looked tachypneic - checked abg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2158-3-11**] 12:42 AM
   Fluconazole - [**2158-3-11**] 05:00 AM
   Vancomycin - [**2158-3-11**] 07:42 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-11**] 07:42 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2158-3-10**] 10:00 AM
   Fentanyl - [**2158-3-10**] 05:55 PM
   Midazolam (Versed) - [**2158-3-10**] 07:00 PM
   Heparin Sodium (Prophylaxis) - [**2158-3-10**] 08:30 PM
   Famotidine (Pepcid) - [**2158-3-11**] 07:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-11**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.3
C (99.1
   HR: 84 (80 - 100) bpm
   BP: 124/68(90) {87/51(65) - 138/106(107)} mmHg
   RR: 24 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 128 kg (admission): 69.2 kg
   Height: 66 Inch
    CVP: 12 (11 - 43)mmHg
   CO/CI (CCO): (5.5 L/min) / (3.1 L/min/m2)
   Total In:
                                                                  1,590 mL
                                                                    809 mL
   PO:
   TF:
   IVF:
                                                                  1,590 mL
                                                                    809 mL
   Blood products:
   Total out:
                                                                  3,861 mL
                                                                    300 mL
   Urine:
                                                                  3,761 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,271 mL
                                                                    509 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 449 (422 - 449) mL
   PS : 18 cmH2O
   RR (Set): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.51/33/116/25/4
   Ve: 9.7 L/min
   PaO2 / FiO2: 232
   Physical Examination
   GENERAL: Intubated, NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. MMM. OP clear.  Neck Supple, No LAD, No thyromegaly.
   CARDIAC: RRR. Normal S1, S2. No murmurs, rubs or [**Last Name (un) 2911**]
   LUNGS: CTAB anteriorly, ventilated
   ABDOMEN: hypoactive BS. Distended, TTP at incision site  No HSM
   EXTREMITIES: bilateral 2+ pitting  edema at ankles, hands. 2+ dorsalis
   pedis/ posterior tibial pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Responds to verbal stimuli, sedated
   Labs / Radiology
   210 K/uL
   8.5 g/dL
   101 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   6 mg/dL
   103 mEq/L
   136 mEq/L
   24.6 %
   8.9 K/uL
        [image002.jpg]
                             [**2158-3-9**]  11:48 AM
                             [**2158-3-9**]  09:23 PM
                             [**2158-3-9**]  10:38 PM
                             [**2158-3-10**]  05:11 AM
                             [**2158-3-10**]  05:26 AM
                             [**2158-3-10**]  10:23 AM
                             [**2158-3-10**]  12:47 PM
                             [**2158-3-10**]  10:52 PM
                             [**2158-3-11**]  03:39 AM
                             [**2158-3-11**]  06:59 AM
   WBC
   8.8
   8.9
   Hct
   25.5
   25.0
   25.4
   24.6
   Plt
   186
   210
   Cr
   0.6
   0.5
   0.6
   0.5
   0.5
   TCO2
   25
   26
   27
   27
   Glucose
   90
   80
   85
   108
   101
   Other labs: PT / PTT / INR:15.8/46.1/1.4, CK / CKMB /
   Troponin-T:668/11/0.02, ALT / AST:18/48, Alk Phos / T Bili:87/3.2,
   Differential-Neuts:85.0 %, Band:2.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0
   %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.4 g/dL, LDH:189 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   54yoF from transverse colectomy, hx pad, emphysema, ethanol abuse,
   transferred for hypoxemic respiratory failure.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**]) -
   Has occurred in the setting of volume overload and anxiety. Continue
   goal negative of 2-3L
   - Currently on pressure support 15/10
   - Pt currently resp acidosis, decr tidal volume and incr PEEP to 8.
   - continue q8h ABGs
   - diuresis with bolus lasix 10mg  IV (2-3L goal met w/ 10 IV lasix
   yesterday)
   - continue home nebs
   - continue sedation prn
 SEPSIS WITHOUT ORGAN DYSFUNCTION,  [**1-30**] PERITONITIS (NON-SBP)  - now
   resolved,  off pressors x48h,
   - Continue vanc, zosyn and fluconazole for broad spectrum abx coverage
   - pt now has right subclavian line placed [**3-6**]
   - Minimizing IVF as diuresing
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) Creatinine improved,
   was likely secondary to hypoperfusion
   - q8h lytes and Cr
 ALCOHOL ABUSE
   - Bolus midazolam prn agitation
   - CIWA when extubated
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   - Hct stable now at 25, no e/o hemolysis
   -See sepsis
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   - Now s/p  transverse colectomy ([**3-2**]) and c/b anastomotic bleed then
   leak , then  s/p ex lap, R colectomy, end ileostomy, Hartmann's
   procedure  ([**3-6**])
   - Hct now stable, abdominal distention stable
   - Appreciate [**Doctor First Name **] recs
   - q8h hct, lytes
   # Hyperbilirubinemia, Direct: ? secondary to obstruction, although no
   other LFT abnormality. No e/o hemolysis as no indirect
   hyperbilirubinemia, and LDH is normal.
   - Trend bili
   - Consider RUQ US if worsening clinically
 ELECTROLYTE & FLUID DISORDER, OTHER
   - Hyponatremia resolved.
   - Replete K, Mg aggressively
   # Cardiac function: Unknown baseline BP, cardiac function.
   - TTE showed nl EF
   - Hold lopressor for now
   fEN: restarting tube feeds, keep mg>2, k>4 , adding thiamine/folate
   PPX:
   -DVT ppx with hep sq
   -Bowel regimen
    ACCESS: pIV's, R subclavian
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-3-6**] 06:00 AM
   Multi Lumen - [**2158-3-6**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2158-03-11 11:54:00 Physician Attending Progress Note
Chief Complaint: sepsis, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 yo female with colon adenoCA s/p transverse colectomy. Course
   notable for anastomotic leak /sepsis now s/p diverting ileostomy
   24 Hour Events:
   *Diuresed
   *PSV
   History obtained from Medical records, ICU housestaff
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2158-3-11**] 12:42 AM
   Fluconazole - [**2158-3-11**] 05:00 AM
   Vancomycin - [**2158-3-11**] 07:42 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-11**] 07:42 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2158-3-10**] 05:55 PM
   Midazolam (Versed) - [**2158-3-10**] 07:00 PM
   Heparin Sodium (Prophylaxis) - [**2158-3-10**] 08:30 PM
   Famotidine (Pepcid) - [**2158-3-11**] 07:42 AM
   Other medications:
   Nicotine, chlorhexidine, SSI, pepcid,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-11**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.3
C (99.2
   HR: 87 (77 - 100) bpm
   BP: 141/74(99) {87/51(65) - 141/106(107)} mmHg
   RR: 32 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 128 kg (admission): 69.2 kg
   Height: 66 Inch
   CVP: 13 (12 - 43)mmHg
   CO/CI (CCO): (6.7 L/min) / (3.8 L/min/m2)
   Total In:
                                                                  1,590 mL
                                                                    965 mL
   PO:
   TF:
   IVF:
                                                                  1,590 mL
                                                                    965 mL
   Blood products:
   Total out:
                                                                  3,861 mL
                                                                    760 mL
   Urine:
                                                                  3,761 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,271 mL
                                                                    205 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 449 (422 - 449) mL
   PS : 15 cmH2O
   RR (Set): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.51/33/116/25/4
   Ve: 12.3 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: ileostomy with +output, surgical incisions clear, +edema
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Non -purposeful, Sedated, Tone: Normal
   Labs / Radiology
   8.5 g/dL
   210 K/uL
   101 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   6 mg/dL
   103 mEq/L
   136 mEq/L
   24.6 %
   8.9 K/uL
        [image002.jpg]
                             [**2158-3-9**]  11:48 AM
                             [**2158-3-9**]  09:23 PM
                             [**2158-3-9**]  10:38 PM
                             [**2158-3-10**]  05:11 AM
                             [**2158-3-10**]  05:26 AM
                             [**2158-3-10**]  10:23 AM
                             [**2158-3-10**]  12:47 PM
                             [**2158-3-10**]  10:52 PM
                             [**2158-3-11**]  03:39 AM
                             [**2158-3-11**]  06:59 AM
   WBC
   8.8
   8.9
   Hct
   25.5
   25.0
   25.4
   24.6
   Plt
   186
   210
   Cr
   0.6
   0.5
   0.6
   0.5
   0.5
   TCO2
   25
   26
   27
   27
   Glucose
   90
   80
   85
   108
   101
   Other labs: PT / PTT / INR:15.8/46.1/1.4, CK / CKMB /
   Troponin-T:668/11/0.02, ALT / AST:18/48, Alk Phos / T Bili:87/3.2,
   Differential-Neuts:85.0 %, Band:2.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0
   %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.4 g/dL, LDH:189 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.3
   mg/dL
   Imaging: CXR: remains fluid overloaded with bilateral effusions
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALCOHOL ABUSE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 PERITONITIS (NON-SBP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   54 yo female with colon CA s/p colectomy and diverting colostomy with
   peritoneal bleeding, recovering from peritoneal
   sepsis/shock/respiratory failure
   1. Sepsis: On Zosyn/Vanc/Diflucan overall with negative cultures.
   appears Will discuss abx   w/[**Doctor First Name **].
   2. Respiratory failure: Intubated in context of sepsis/resp failure.
   Not yet ready to come off vent due to amt of support, mental status.
   Plan further diuresis with goal [**1-31**] net negative liters. Drop PEEP to
   7.5, further vent wean as tolerated.
   3. MS changes: not following commands, but has been on sedation. Will
   limit sedation to prn boluses unless necessary, continue to monitor MS
   4. Anemia: unchanged
   Rest of plans per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-3-6**] 06:00 AM
   Multi Lumen - [**2158-3-6**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2158-03-12 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 54yoF from transverse colectomy, hx pad, emphysema,
   ethanol abuse, transferred for hypoxemic respiratory failure.
   24 Hour Events:
   - Pt remained on psv most of the night. Breathing pattern very erratic
   with rate ranging from 20
s to 50
s. BS coarse. Suct for thick white
   sput-spec sent. Placed on a/c for a short period of  time due to [**Month (only) 202**] rr
   after sedation given.
   - Pt was not on pressure support of 12, stayed on 15, when turned down
   to 12 (around MN)pt's RR incr 40s. Pt also became agitated and given
   sedative, and needed to be on Assist, now back on pressure support at
   15.
   - lasix 10mg IV x1 tapered off around 10pm, given lasix 20mg IV x1
   around 10pm. At 6am pt was -1.2L and given another 10 IV lasix at 6am
   - swab from fluid- speciation back: growing E.coli, Klebsiella -
   pan-sensitive
   - tbili coming down
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2158-3-11**] 12:42 AM
   Vancomycin - [**2158-3-11**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-12**] 12:17 AM
   Fluconazole - [**2158-3-12**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-3-11**] 08:20 PM
   Famotidine (Pepcid) - [**2158-3-11**] 08:54 PM
   Furosemide (Lasix) - [**2158-3-11**] 10:50 PM
   Midazolam (Versed) - [**2158-3-12**] 04:30 AM
   Fentanyl - [**2158-3-12**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-12**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 90 (77 - 97) bpm
   BP: 100/56(72) {87/50(63) - 148/78(103)} mmHg
   RR: 28 (20 - 42) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 128 kg (admission): 69.2 kg
   Height: 66 Inch
    CVP: 12 (6 - 19)mmHg
   CO/CI (CCO): (4.5 L/min) / (2.5 L/min/m2)
   Total In:
                                                                  1,979 mL
                                                                    564 mL
   PO:
   TF:
                                                                    160 mL
                                                                    177 mL
   IVF:
                                                                  1,818 mL
                                                                    357 mL
   Blood products:
   Total out:
                                                                  2,475 mL
                                                                  1,700 mL
   Urine:
                                                                  2,075 mL
                                                                  1,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -496 mL
                                                                 -1,136 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 15 cmH2O
   RR (Set): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.50/37/108/27/5
   Ve: 11.1 L/min
   PaO2 / FiO2: 216
   Physical Examination
   GENERAL: Intubated, not agitated
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, rate. Normal S1, S2. No murmurs, rubs or
   [**Last Name (un) 2911**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Ostomy pink, liquid stool in bag, midline incision CDI
   EXTREMITIES: bilateral pitting edema LE
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: responds to noxious stimuli, otherwise not responsive, sedated
   Labs / Radiology
   295 K/uL
   8.8 g/dL
   105 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.7 mEq/L
   6 mg/dL
   102 mEq/L
   134 mEq/L
   25.8 %
   12.0 K/uL
        [image002.jpg]
                             [**2158-3-10**]  05:26 AM
                             [**2158-3-10**]  10:23 AM
                             [**2158-3-10**]  12:47 PM
                             [**2158-3-10**]  10:52 PM
                             [**2158-3-11**]  03:39 AM
                             [**2158-3-11**]  06:59 AM
                             [**2158-3-11**]  12:52 PM
                             [**2158-3-11**]  05:44 PM
                             [**2158-3-11**]  06:00 PM
                             [**2158-3-12**]  02:48 AM
   WBC
   8.9
   12.0
   Hct
   24.6
   25.8
   Plt
   210
   295
   Cr
   0.6
   0.5
   0.5
   0.5
   0.6
   TCO2
   26
   27
   27
   29
   30
   Glucose
   85
   108
   101
   89
   105
   Other labs: PT / PTT / INR:16.2/33.6/1.4, CK / CKMB /
   Troponin-T:668/11/0.02, ALT / AST:18/48, Alk Phos / T Bili:87/2.8,
   Differential-Neuts:85.0 %, Band:2.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0
   %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.4 g/dL, LDH:189 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   54yoF from transverse colectomy, hx pad, emphysema, ethanol abuse,
   transferred for hypoxemic respiratory failure.
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**]) -
   Has occurred in the setting of volume overload and anxiety. Continue
   goal negative 1L
   - Currently on pressure support 15/5
   - continue q8h ABGs
   - diuresis with lasix gtt to avoid hypotension
   - continue home nebs
   - continue sedation prn
 SEPSIS WITHOUT ORGAN DYSFUNCTION,  [**1-30**] PERITONITIS (NON-SBP)  - now
   resolved,  off pressors x72h
   - Continue vanc, zosyn and fluconazole for broad spectrum abx coverage
   - pt now has right subclavian line placed [**3-6**]
   - Minimizing IVF as diuresing
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) Creatinine improved,
   was likely secondary to hypoperfusion
   - q8h lytes and Cr
 ALCOHOL ABUSE
   - Bolus midazolam prn agitation
   - CIWA when extubated
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   - Hct stable now at 25, no e/o hemolysis
   -See sepsis
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   - Now s/p  transverse colectomy ([**3-2**]) and c/b anastomotic bleed then
   leak , then  s/p ex lap, R colectomy, end ileostomy, Hartmann's
   procedure  ([**3-6**])
   - Hct now stable, abdominal distention stable
   - Appreciate [**Doctor First Name **] recs
   - q8h hct, lytes
   # Hyperbilirubinemia, Direct: ? secondary to obstruction, although no
   other LFT abnormality. No e/o hemolysis as no indirect
   hyperbilirubinemia, and LDH is normal.
   - Trend bili
   - Consider RUQ US if worsening clinically
 ELECTROLYTE & FLUID DISORDER, OTHER
   - Hyponatremia resolved.
   - Replete K, Mg aggressively
   # Cardiac function: Unknown baseline BP, cardiac function.
   - TTE showed nl EF
   - Hold lopressor for now
   fEN: restarting tube feeds, checking residuals q4h, keep mg>2, k>4 ,
   adding thiamine/folate
   PPX:
   -DVT ppx with hep sq
   -Bowel regimen
    ACCESS: pIV's, R subclavian
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2158-3-12**] 03:53 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-3-6**] 06:00 AM
   Multi Lumen - [**2158-3-6**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:

2158-03-14 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 54yoF from transverse colectomy, hx pad, emphysema,
   ethanol abuse, transferred for hypoxemic respiratory failure.
   24 Hour Events:
 BLOOD CULTURED - At [**2158-3-13**] 12:30 PM
 MULTI LUMEN - START [**2158-3-13**] 03:42 PM
 MULTI LUMEN - STOP [**2158-3-13**] 06:22 PM
 SPUTUM CULTURE - At [**2158-3-14**] 12:00 AM
 URINE CULTURE - At [**2158-3-14**] 01:00 AM
 WOUND CULTURE - At [**2158-3-14**] 01:00 AM
 FEVER - 101.6
F - [**2158-3-14**] 12:00 AM
   - Repeatedly febrile, although BP and HR stable.
   - Resited CVL to R IJ as site appeared erythematous and not fully
   covered by dressing. Line sent for culture
   - Surgery opened surgical site and drained some purulent material.
   - considered thoracentesis but held off given other potential
   etiologies.
   - Diuresing well, PM lytes stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-13**] 04:00 PM
   Vancomycin - [**2158-3-13**] 08:24 PM
   Piperacillin - [**2158-3-14**] 12:00 AM
   Fluconazole - [**2158-3-14**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2158-3-13**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2158-3-13**] 08:00 PM
   Fentanyl - [**2158-3-14**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-14**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.1
C (100.6
   HR: 86 (75 - 97) bpm
   BP: 95/48(65) {80/42(60) - 157/82(111)} mmHg
   RR: 29 (14 - 39) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 128 kg (admission): 69.2 kg
   Height: 66 Inch
    CVP: 7 (7 - 28)mmHg
   Total In:
                                                                  3,645 mL
                                                                  1,088 mL
   PO:
   TF:
                                                                  1,630 mL
                                                                    598 mL
   IVF:
                                                                  1,985 mL
                                                                    429 mL
   Blood products:
   Total out:
                                                                  5,500 mL
                                                                  1,455 mL
   Urine:
                                                                  5,300 mL
                                                                  1,455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,855 mL
                                                                   -367 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 410 (333 - 420) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 511
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 118
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.46/43/95.[**Numeric Identifier **]/25/5
   Ve: 12.6 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   495 K/uL
   8.0 g/dL
   113 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.3 mEq/L
   8 mg/dL
   98 mEq/L
   133 mEq/L
   24.9 %
   13.4 K/uL
        [image002.jpg]
                             [**2158-3-12**]  04:31 PM
                             [**2158-3-12**]  08:05 PM
                             [**2158-3-12**]  08:21 PM
                             [**2158-3-13**]  03:05 AM
                             [**2158-3-13**]  03:40 AM
                             [**2158-3-13**]  12:02 PM
                             [**2158-3-13**]  12:17 PM
                             [**2158-3-13**]  07:26 PM
                             [**2158-3-14**]  04:04 AM
                             [**2158-3-14**]  04:38 AM
   WBC
   13.3
   13.4
   Hct
   23.9
   24.9
   Plt
   352
   495
   Cr
   0.4
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   32
   31
   29
   32
   Glucose
   115
   103
   108
   119
   100
   113
   Other labs: PT / PTT / INR:14.9/32.0/1.3, CK / CKMB /
   Troponin-T:668/11/0.02, ALT / AST:12/32, Alk Phos / T Bili:165/1.2,
   Differential-Neuts:83.7 %, Band:0.0 %, Lymph:11.4 %, Mono:3.5 %,
   Eos:1.1 %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:1.7
   mmol/L, Albumin:2.1 g/dL, LDH:265 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   54yoF from transverse colectomy, hx pad, emphysema, ethanol abuse,
   transferred for hypoxemic respiratory failure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])- Has occurred in the
   setting of volume overload and anxiety. Unable to wean at this point,
   likely due to fluid overload (effusion and edema), abdominal distension
   and metabolic alkalosis.
   - Continue diuresis with acetazolamide, lasix drip and monitoring [**Hospital1 **]
   lytes.
   - switch to pressure support and continue q8h ABGs
   - continue home nebs
   - continue sedation prn
   - no plan for thoracentesis at this time given other sources of
   potential infection and good progress with diuresis
 ALTERED MENTAL STATUS (NOT DELIRIUM)- had previously been on versed
   boluses
   - minimize fentanyl boluses
   - f/u read of CT head
 SEPSIS WITHOUT ORGAN DYSFUNCTION,  [**1-30**] PERITONITIS (NON-SBP)  -
   hypotension now resolved,  off pressors but continues to have fevers.
   Source unclear, potentially could be line infection (erythema at CVL),
   VAP,  empyema/abscess, surgical site. Per surgery, too early for
   abdominal fluid collection. [**3-13**] surgery opened op site and drained
   purulent fluid.
   - Continue vanc, zosyn for broad spectrum abx coverage; fluc d/c
ed per
   [**Doctor First Name **] recs
   - resited line [**3-13**]
   - f/u micro
   - f/u read of CT torso for evaluate of abdominal fluid collection
   - f/u surgical plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) Creatinine improved,
   was likely secondary to hypoperfusion. Making good amounts of urine
   with diuresis.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   stable
   - LDH elevated, trend for now as hct stable. If LDH rising or hct
   falling send hemolysis labs
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER) - Now s/p
   transverse colectomy ([**3-2**]) and c/b anastomotic bleed then leak , then
   s/p ex lap, R colectomy, end ileostomy, Hartmann's procedure  ([**3-6**])
   - Appreciate [**Doctor First Name **] recs
   # Cardiac function: Unknown baseline BP, cardiac function.
   - TTE showed nl EF
   - Hold lopressor for now
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2158-3-13**] 06:12 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-3-6**] 06:00 AM
   Multi Lumen - [**2158-3-13**] 03:42 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-03-14 11:48:00 Physician Attending Progress Note
Chief Complaint: Sepsis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54F with colon CA s/p hemicolectomy c/b bleeding, peritonitis.
   24 Hour Events:
 BLOOD CULTURED - At [**2158-3-13**] 12:30 PM
 MULTI LUMEN - START [**2158-3-13**] 03:42 PM
 MULTI LUMEN - STOP [**2158-3-13**] 06:22 PM
 SPUTUM CULTURE - At [**2158-3-14**] 12:00 AM
 URINE CULTURE - At [**2158-3-14**] 01:00 AM
 WOUND CULTURE - At [**2158-3-14**] 01:00 AM
 FEVER - 101.6
F - [**2158-3-14**] 12:00 AM
   PSV weaned to 15/5
   Fluconazole stopped.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-13**] 04:00 PM
   Fluconazole - [**2158-3-14**] 04:00 AM
   Vancomycin - [**2158-3-14**] 07:36 AM
   Piperacillin - [**2158-3-14**] 08:28 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2158-3-13**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2158-3-13**] 08:00 PM
   Fentanyl - [**2158-3-14**] 10:20 AM
   Other medications:
   Diamox 50mg q6h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Edema
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: Unable to answer
   Flowsheet Data as of  [**2158-3-14**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.2
C (98.9
   HR: 79 (75 - 97) bpm
   BP: 108/52(72) {80/42(60) - 157/82(111)} mmHg
   RR: 19 (14 - 39) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 128 kg (admission): 69.2 kg
   Height: 66 Inch
   CVP: 12 (7 - 28)mmHg
   Total In:
                                                                  3,645 mL
                                                                  2,515 mL
   PO:
   TF:
                                                                  1,630 mL
                                                                    662 mL
   IVF:
                                                                  1,985 mL
                                                                    864 mL
   Blood products:
   Total out:
                                                                  5,500 mL
                                                                  3,090 mL
   Urine:
                                                                  5,300 mL
                                                                  2,890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,855 mL
                                                                   -575 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 425 (333 - 425) mL
   PS : 15 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 118
   SpO2: 100%
   ABG: 7.46/43/95.[**Numeric Identifier **]/25/5
   Ve: 10.5 L/min
   PaO2 / FiO2: 192
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   495 K/uL
   113 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.3 mEq/L
   8 mg/dL
   98 mEq/L
   133 mEq/L
   24.9 %
   13.4 K/uL
        [image002.jpg]
                             [**2158-3-12**]  04:31 PM
                             [**2158-3-12**]  08:05 PM
                             [**2158-3-12**]  08:21 PM
                             [**2158-3-13**]  03:05 AM
                             [**2158-3-13**]  03:40 AM
                             [**2158-3-13**]  12:02 PM
                             [**2158-3-13**]  12:17 PM
                             [**2158-3-13**]  07:26 PM
                             [**2158-3-14**]  04:04 AM
                             [**2158-3-14**]  04:38 AM
   WBC
   13.3
   13.4
   Hct
   23.9
   24.9
   Plt
   352
   495
   Cr
   0.4
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   32
   31
   29
   32
   Glucose
   115
   103
   108
   119
   100
   113
   Other labs: PT / PTT / INR:14.9/32.0/1.3, CK / CKMB /
   Troponin-T:668/11/0.02, ALT / AST:12/32, Alk Phos / T Bili:165/1.2,
   Differential-Neuts:83.7 %, Band:0.0 %, Lymph:11.4 %, Mono:3.5 %,
   Eos:1.1 %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:1.7
   mmol/L, Albumin:2.1 g/dL, LDH:265 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.9 mg/dL
   Imaging: Chest CT:  b/l pleural effusion with associated compressive
   b/l LL ateletasis; small opacity in lingula
   Microbiology: No new data
   Assessment and Plan
   1) Respiratory Failure:
   Chest CT demonstrates bilateral pleural effusions with associated
   compressive atelectasis.
   Continue diuresis (goal 2l) in effort to decrease anasarca and pleural
   effusions.
   Decrease PS to 10 and further if tolerated.
   There is no clear infiltrate on chest CT to suggest pneumonia and she
   does not have significant secretions.
   2) Sepsis:
   Evaluate abd CT for fluid collection.
   F/u cultures.
   If no other source, consider thoracentesis though likelihood of these
   bilateral effusions being infected is extremely low.
   Continue vanco/zosyn for now.
   3) Acid-base:
   Metabolic alkalosis improved with acetazolamide.
   Continue given persistent alkalemia which will decrease respiratory
   drive.
   4) Altered mental status:
   F/u head CT.
   Avoid continuous IV sedatives and allow to awaken.
   5) Anemia:
   Hct has been stable.  No evidence of blood loss--continue to monitor.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2158-3-6**] 06:00 AM
   Multi Lumen - [**2158-3-13**] 03:42 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed
   Comments:  Plan of care reviewed directly with Dr. [**Last Name (STitle) **].
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2158-03-17 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 54yoF w/ h/o COPD, etoh abuse, transverse colon
   adenocarcinoma  s/p R hemi-colectomy POD # 15, c/b anastomotic leak ,
   peritonitis and AMS, and now s/p  ex lap, R colectomy, R diverting
   illeostomy and [**Doctor Last Name 4888**] pouch POD # 11 , and respiratory failure.
   24 Hour Events:
   - repeat CT scan with rectal, PO and IV contrast without significant
   change in air collection near hartmanns pouch
   - culture of peritoneal fluid drained on [**3-15**] growing GNR
   - deferred surgery today, reconsider tomorrow.
   - failed pressure support - tachypneic into 50s, agitated
   - weaned off pressors and sedation, consider haldol in AM.
   - (face purple flat)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2158-3-15**] 04:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-17**] 12:11 AM
   Ciprofloxacin - [**2158-3-17**] 12:42 AM
   Vancomycin - [**2158-3-17**] 04:00 AM
   Metronidazole - [**2158-3-17**] 06:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2158-3-16**] 07:49 PM
   Heparin Sodium (Prophylaxis) - [**2158-3-17**] 04:00 AM
   Midazolam (Versed) - [**2158-3-17**] 04:28 AM
   Fentanyl - [**2158-3-17**] 04:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-17**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 73 (62 - 100) bpm
   BP: 96/80(86) {79/56(64) - 264/248(254)} mmHg
   RR: 27 (25 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
    CVP: 17 (16 - 17)mmHg
   Total In:
                                                                  3,742 mL
                                                                    809 mL
   PO:
   TF:
                                                                    128 mL
   IVF:
                                                                  2,594 mL
                                                                    669 mL
   Blood products:
   Total out:
                                                                  2,580 mL
                                                                    755 mL
   Urine:
                                                                  1,680 mL
                                                                    555 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
                                                                    325 mL
                                                                    100 mL
   Balance:
                                                                  1,162 mL
                                                                     54 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.42/36/129/24/0
   Ve: 11.8 L/min
   PaO2 / FiO2: 215
   Physical Examination
   GENERAL: Intubated, agitated. Pt opens eyes to voice, follows simple
   commands
 blink twice, stick out tongue, does not follow commands at
   extremities to squeeze hand, but does move all limbs spontaneously
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, rate. Normal S1, S2. No murmurs, rubs or
   [**Last Name (un) 2911**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Ostomy pink, liquid stool in bag, midline incision CDI. BS
   hypoactive, TTP diffusely, distended but unchanged, no rebound
   EXTREMITIES: 3+ bilateral pitting edema LE
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: responds to noxious stimuli, otherwise not responsive, sedated
   Labs / Radiology
   644 K/uL
   8.8 g/dL
   64 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.2 mEq/L
   13 mg/dL
   101 mEq/L
   134 mEq/L
   27.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2158-3-15**]  01:41 AM
                             [**2158-3-15**]  01:47 AM
                             [**2158-3-15**]  07:13 AM
                             [**2158-3-15**]  12:46 PM
                             [**2158-3-15**]  02:38 PM
                             [**2158-3-16**]  01:10 AM
                             [**2158-3-16**]  03:44 AM
                             [**2158-3-16**]  06:40 AM
                             [**2158-3-16**]  09:26 PM
                             [**2158-3-17**]  03:23 AM
   WBC
   24.8
   21.9
   14.4
   8.2
   Hct
   27.8
   25.7
   25.6
   27.1
   Plt
   544
   641
   703
   644
   Cr
   0.8
   0.9
   0.7
   0.5
   TropT
   <0.01
   TCO2
   26
   23
   25
   26
   26
   24
   Glucose
   125
   98
   109
   64
   Other labs: PT / PTT / INR:17.6/48.3/1.6, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:[**9-15**], Alk Phos / T Bili:128/1.6,
   Differential-Neuts:83.7 %, Band:0.0 %, Lymph:11.4 %, Mono:3.5 %,
   Eos:1.1 %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:1.7
   mmol/L, Albumin:2.0 g/dL, LDH:186 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
54yoF w/ h/o COPD, etoh abuse, transverse colon adenocarcinoma  s/p R hemi-colec
tomy POD # 13, c/b anastomotic leak , peritonitis and AMS, and now s/p  ex lap,
R colectomy, R diverting illeostomy and [**Doctor Last Name 4888**] pouch, and respiratory failure.
Course c/b leukocytosis and fever of unknown etiology
#  Leukocytosis/Fevers: Improved with addition of antibiotics and draining of lo
culated peritoneal fluid and gallbladder.
- Now on PO vancomycin and IV cipro in addition to Zosyn and flagyl. Stopped IV
vancomycin.
- CXR concerning for retrocardiac infiltrate
- lines recently replaced (a line and CVL)
- CT abdomen with rectal contrast with free air near [**Doctor Last Name **]
s pouch concerning
for leakage
Per surgery no plan for OR today.
- will wean sedation and pressors
   #   Respiratory failure
 Was restarted on AC when septic, tolerating
   well even with new infiltrate
   - given no plan for OR, will try pressure support today
   - will continue to wean sedation.
   #   AMS
 Quite alert today, making intentional movements to pull out
   vent.
   - continue to wean fentanyl / versed boluses
   #   Anemia
 stable
   # Renal function
 Resolved.
   Given large contrast exposure recently, will give mucomyst and watch
   carefully.
   # FEN- restarted tube feeds at 20, goal 50; holding tonight in
   anticipation of surgery. Sliding scale for lytes, and replete IVF prn
   ///////////////////////////
#   Sepsis
 pt met SIRS criteria x4 overnight w/o source of infection identifie
d per blood cx. Pt currently requiring levophed 0.3 and vasopressin 2.4, s/p 2 u
 PRBC as colloid, and 2.5L of crystalloid overnight. Source of infection most li
kely from abdomen. Pt had CT abdomen that surgery believes not c/w abscess, but
radiology read suggesting areas of loculation, and although no rim enhancement t
o suggest abscess, may be early on scan, abdominal exam stable and bladder press
[**Last Name (un) **] stable currently.  Other causes, pulmonary
 CXR does not show new infiltrat
e, pleural effusions continue to be simple in appearance, but still possibility;
 lines
 central line changed 2d ago to R IJ and unlikely, but A-line over 1wk o
ld, PIV will be taken out not working w/ pt
s anasarca; gallbladder
s tbili
 rising now 1.8 from 1.2 can consider acacluous cholecystitis in critically ill
pt; wound site
 requiring I&D over last 2d with purulent drainage; fungal infec
tion in abd as fluconazle taken off 2d ago prior to pt worsening but very unlike
ly given pt not immunocompromised.
- Will d/c heparin gtt once final read for CTA neg for PE
- continue levophed, vasopressin prn MAP > 65
- continue IVF boluses, currently intravasc  low CVP 12 when normally 15 or high
 will give 500ml bolus, and replete as needed esp while on pressors
- Will consult ID on source of infection and abx regimen
- Added flagyl 500 IV q8 overnight to expand anaerobic coverage, continue Vanco/
Zosyn/Flagyl  for now.  On day # 13 of Vanco/Zosyn, and day# 1 of Flagyl
- Will have IP do thoracentesis of pleural effusion r/o exudative paraneumonic e
ffusion or empyema
- hold off on RUQ US for now as tbili higher in past and other explanations more
 likely
- Surgery would like all lines replaced, will replace a-line, and discuss R IJ
 unlikely given recent placement 2d ago
- C.diff negative x1
- continue to moniter lactate
- CIS, f/u cultures
   #   Respiratory failure
 intubated, on AC now. Pt became tachypneic
   likely in setting of sepsis and transitioned over to assist control.
   Pt
s pleural effusions and compression atelectasis also contributing.
   With new CTA negative, PE likely not contributing to pt
s increased
   dead space.
   - continue q8 ABGs, lytes
   - will wean to pressure support if possible
   - wean sedation as possible
   - once pt no longer septic will restart diuresis
   - change to SQH and d/c heparin gtt if final read of CTA neg
   #   AMS
 pt more alert than previous today, still not following
   commands to extremites. Out of window of etoh withdrawl, likely
   delirium and AMS [**1-30**] sepsis.
   - continue fentanyl / versed boluses
   - avoid fentanyl / versed drips
   #   Cardiac function
 pt had normal EF on echo in past, do not suspect
   cardiogenic shock currently. However pt did become hypotensive and may
   have had some demand ischemia to ACS.
   - will check CE x1, and EKG
   - no need for new Echo currently
   #   Anemia
 no new GIB suspected currently. Pt
s hct has been stable
   at 25. Pt given 2 units PRBC overnight as colloid replacement given pt
   very volume overloaded overall since admission. Pt
s Hct 27.8, likely
   dilutional given 2.5L IVF still given overnight.
   - continue to moniter Hct q12
   - transfuse if actively bleeding or Hct < 21
   # Renal function
 Currently ARF resolved.  Cr 0.8, however pt received
   2 dye loads w/in 24h, and was may still have been intravascularly dry
   during time of contrast scan overnight. Will moniter for rise in Cr in
   48h.  Pt received Bicarb IVF and mucomyst prior to exam
   - give remaining 2 doses of mucomyst
   - continue adequate hydration
   - trend Cr
   # Malignancy
 now s/p resection of colon cancer
 continue to moniter
   # [**Name (NI) 4890**] pt
s albumin low at 2.1 currently, likely contributing to pt
   3^rd spacing
   - restarting TF pt was tolerating well w/ goal 80cc/h.
   - on sliding scale for lytes, and replete IVF prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-3-13**] 03:42 PM
   Arterial Line - [**2158-3-15**] 10:50 PM
   20 Gauge - [**2158-3-16**] 08:45 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: H2 drip
   Code status: Full code
   Disposition: ICU
                       Active Medications [**Known lastname 4820**],[**Known firstname **]
           1. IV access: Peripheral line Order date: [**3-6**] @ 1550
   15. FoLIC Acid 1 mg IV Q24H  Order date: [**3-11**] @ 1408
   2. IV access: Temporary central access (ICU) Order date: [**3-8**] @ 0431
   16. Furosemide 1-10 mg/hr IV DRIP INFUSION
   hold for SBP <100  Order date: [**3-12**] @ 1514
   3. OK to use line Order date: [**3-13**] @ 1748
   17. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**3-6**] @ 1550
   4. 1000 mL NS
   Continuous at 50 ml/hr Order date: [**3-15**] @ 1122
   18. Ipratropium Bromide MDI 6 PUFF IH QID  Order date: [**3-8**] @ 0947
   5. 500 mL NS Bolus 500 ml Over 30 mins Order date: [**3-15**] @ 0915
   19. Magnesium Sulfate  IV Sliding Scale Order date: [**3-10**] @ 0553
   6. Acetaminophen (Liquid) 325-650 mg PO Q6H:PRN fever, pain
   Per NG tube  Order date: [**3-12**] @ 2227
   20. MetRONIDAZOLE (FLagyl) 500 mg IV Q8H  Order date: [**3-14**] @ 2058
   7. Acetylcysteine 20% 600 mg PO BID Duration: 4 Doses
   two doses prior to scan and two dose afterwards  Order date: [**3-14**] @
   1825
   21. Midazolam 1 mg IV Q2H:PRN  Order date: [**3-14**] @ 1542
   8. Albuterol Inhaler 4 PUFF IH Q4H:PRN  Order date: [**3-7**] @ 0609
   22. Norepinephrine 0.03-0.25 mcg/kg/min IV DRIP INFUSION  Order date:
   [**3-14**] @ [**2106**]
   9. Calcium Gluconate  IV Sliding Scale Order date: [**3-7**] @ 1651
   23. Piperacillin-Tazobactam Na 4.5 g IV Q8H  Order date: [**3-10**] @ 0753
   10. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 **]
   Use only if patient is on mechanical ventilation.  Order date: [**3-6**] @
   1550
   24. Potassium Chloride  IV Sliding Scale
   please use concentrated 20 mEq/50mL  Order date: [**3-10**] @ 0553
   11. Ciprofloxacin 400 mg IV Q12H  Order date: [**3-15**] @ 2127
   25. Sarna Lotion 1 Appl TP QID:PRN  Order date: [**3-6**] @ 1550
   12. Dexmedetomidine 0.2-0.5 mcg/kg/hr IV INFUSION  Order date: [**3-14**] @
   1706
   26. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**3-8**] @ 0431
   13. Famotidine 20 mg IV Q12H  Order date: [**3-6**] @ 1550
   27. Vasopressin 2.4 UNIT/HR IV DRIP TITRATE TO map > 65  Order date:
   [**3-14**] @ 2224
   14. Fentanyl Citrate 25-100 mcg/hr IV DRIP INFUSION  Order date: [**3-15**]
   @ 1540
   28. Vancomycin Oral Liquid 125 mg PO Q6H
   Day 1 = [**2158-3-15**]  Order date: [**3-15**] @ 1405

2158-03-18 08:50:00 Physician Attending Progress Note
Chief Complaint: resp failure
   sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2158-3-17**] 04:03 PM
   extubated yesterday - re-intubated because of resp distress and
   hypoxemia
   agitated
   diuresing in attempt to clear pleural effusions
   History obtained from housestaff
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2158-3-15**] 04:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-18**] 12:25 AM
   Ciprofloxacin - [**2158-3-18**] 12:55 AM
   Vancomycin - [**2158-3-18**] 03:49 AM
   Metronidazole - [**2158-3-18**] 06:15 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2158-3-17**] 08:11 PM
   Heparin Sodium (Prophylaxis) - [**2158-3-17**] 10:00 PM
   Haloperidol (Haldol) - [**2158-3-18**] 03:00 AM
   Fentanyl - [**2158-3-18**] 08:17 AM
   Midazolam (Versed) - [**2158-3-18**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-18**] 08:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 120 (62 - 120) bpm
   BP: 134/80(93) {72/49(55) - 148/101(109)} mmHg
   RR: 36 (22 - 36) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
             Total In:
                                                                  2,382 mL
                                                                    743 mL
   PO:
             TF:
                                                                    100 mL
                                                                    184 mL
   IVF:
                                                                  2,143 mL
                                                                    559 mL
   Blood products:
   Total out:
                                                                  2,830 mL
                                                                    950 mL
   Urine:
                                                                  2,630 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
                                                                    125 mL
   Balance:
                                                                   -448 mL
                                                                   -207 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 332 (297 - 758) mL
   PS : 10 cmH2O
   RR (Set): 26
   RR (Spontaneous): 4
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 68
   PIP: 14 cmH2O
   Plateau: 0 cmH2O
   Compliance: -30 cmH2O/mL
   SpO2: 92%
   ABG: 7.42/40/104/24/0
   Ve: 17.5 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Distended, Tender: diffusely, mid-line wound
   Extremities: Right: 3+, Left: 3+, edema
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   683 K/uL
   91 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.5 mEq/L
   7 mg/dL
   106 mEq/L
   138 mEq/L
   28.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2158-3-15**]  02:38 PM
                             [**2158-3-16**]  01:10 AM
                             [**2158-3-16**]  03:44 AM
                             [**2158-3-16**]  06:40 AM
                             [**2158-3-16**]  09:26 PM
                             [**2158-3-17**]  03:23 AM
                             [**2158-3-17**]  08:45 AM
                             [**2158-3-17**]  06:03 PM
                             [**2158-3-18**]  04:21 AM
                             [**2158-3-18**]  04:38 AM
   WBC
   14.4
   8.2
   7.7
   Hct
   25.6
   27.1
   28.1
   Plt
   [**Telephone/Fax (3) 4958**]
   Cr
   0.7
   0.5
   0.5
   0.5
   TCO2
   25
   26
   26
   24
   26
   27
   Glucose
   109
   64
   78
   91
   Other labs: PT / PTT / INR:17.6/48.3/1.6, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:[**11-17**], Alk Phos / T Bili:126/1.5,
   Differential-Neuts:83.7 %, Band:0.0 %, Lymph:11.4 %, Mono:3.5 %,
   Eos:1.1 %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:1.2
   mmol/L, Albumin:2.0 g/dL, LDH:205 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS, agitation, tachycardia, hypertension  - start
   propofol
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING) -
   stable, follow
 PERITONITIS (NON-SBP) on broad spectrum antibiotics, remains
   afebrile, follow cultures
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]) - failed yesterday, working
   on diuresis, continue vent suuport for now
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER) - s/p
   resection
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2158-3-17**] 07:01 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-3-13**] 03:42 PM
   20 Gauge - [**2158-3-16**] 08:45 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 36 minutes
   Patient is critically ill

2158-03-19 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   54yoF w/ h/o COPD, etoh abuse, transverse colon adenocarcinoma  s/p R
   hemi-colectomy POD # 16, c/b anastomotic leak , peritonitis and AMS,
   and now s/p  ex lap, R colectomy, R diverting illeostomy and [**Doctor Last Name 4888**]
   pouch POD # 12 , and respiratory failure.
   24 Hour Events:
   - On lasix gtt, then BP's dropped to 70s systolic. Per [**Doctor First Name **] give 25%
   albumin, hold lasix gtt, pt's pressures went to 80's systolic
   - ID rec'd stopping Zosyn as cx growing pan sensi E coli, but couldn't
   reach [**Last Name (LF) **], [**First Name3 (LF) **] still on Zosyn
   - Off lasix gtt overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2158-3-18**] 03:49 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-18**] 11:06 PM
   Ciprofloxacin - [**2158-3-18**] 11:26 PM
   Metronidazole - [**2158-3-19**] 05:31 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2158-3-18**] 08:17 AM
   Midazolam (Versed) - [**2158-3-18**] 08:17 AM
   Famotidine (Pepcid) - [**2158-3-18**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2158-3-19**] 03:07 AM
   Other medications:
   Flowsheet Data as of  [**2158-3-19**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 80 (72 - 121) bpm
   BP: 89/54(63) {77/46(40) - 148/101(107)} mmHg
   RR: 37 (15 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
    CVP: 9 (7 - 20)mmHg
   Total In:
                                                                  3,035 mL
                                                                  1,047 mL
   PO:
   TF:
                                                                    840 mL
                                                                    343 mL
   IVF:
                                                                  2,145 mL
                                                                    703 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  3,780 mL
                                                                    615 mL
   Urine:
                                                                  3,405 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
                                                                    225 mL
                                                                    160 mL
   Balance:
                                                                   -745 mL
                                                                    432 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 265 (265 - 265) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 140
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 98%
   ABG: ///27/
   Ve: 15.3 L/min
   Physical Examination
   GENERAL: Intubated, agitated. Pt opens eyes to voice, follows simple
   commands
 blink twice, stick out tongue, does not follow commands at
   extremities to squeeze hand, but does move all limbs spontaneously
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, rate. Normal S1, S2. No murmurs, rubs or
   [**Last Name (un) 2911**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Ostomy pink, liquid stool in bag, midline incision CDI. BS
   hypoactive, TTP diffusely, distended but unchanged, no rebound
   EXTREMITIES: 3+ bilateral pitting edema LE
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: responds to noxious stimuli, otherwise not responsive, sedated
   Labs / Radiology
   655 K/uL
   9.0 g/dL
   112
   0.5 mg/dL
   27 mEq/L
   4.0 mEq/L
   3 mg/dL
   107 mEq/L
   140 mEq/L
   27.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2158-3-17**]  03:23 AM
                             [**2158-3-17**]  08:45 AM
                             [**2158-3-17**]  06:03 PM
                             [**2158-3-18**]  04:21 AM
                             [**2158-3-18**]  04:38 AM
                             [**2158-3-18**]  04:30 PM
                             [**2158-3-18**]  10:42 PM
                             [**2158-3-19**]  01:20 AM
                             [**2158-3-19**]  03:19 AM
                             [**2158-3-19**]  06:00 AM
   WBC
   8.2
   7.7
   8.2
   Hct
   27.1
   28.1
   25.7
   27.2
   Plt
   644
   683
   655
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   26
   27
   Glucose
   64
   78
   91
   95
   101
   117
   112
   Other labs: PT / PTT / INR:17.1/40.0/1.5, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:[**9-13**], Alk Phos / T Bili:143/1.3,
   Differential-Neuts:83.7 %, Band:0.0 %, Lymph:11.4 %, Mono:3.5 %,
   Eos:1.1 %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:1.2
   mmol/L, Albumin:2.0 g/dL, LDH:167 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   54yoF w/ h/o COPD, etoh abuse, transverse colon adenocarcinoma  s/p R
   hemi-colectomy POD # 16, c/b anastomotic leak , peritonitis and AMS,
   and now s/p  ex lap, R colectomy, R diverting illeostomy and [**Doctor Last Name 4888**]
   pouch POD # 12 , and respiratory failure.
   #   Respiratory failure
 Pt was extubated yesterday, but became
   tachypneic, o2 sat decr to 89 despite cpap. Pt was reintubated and has
   been on AC since then.
   - pt requiring hourly fentanyl and versed, continues to be agitated
   will restart pt on propofol gtt
   - continue on AC for now, may try pressure support later in the day
   - standing nebs
   #  Tachypnea, Tachycardia
 started this AM, overnight not tachycardic,
   nor tachypneic just agitated. Pt is not volume depleted w/ CVP 20, and
   HTNsive currently. Pt also afebrile currently. Likely in setting of
   worsened agitation.
   - continue AC as below, and will start on propofol, continue haldol
   once off propofol
#  Leukocytosis/Fevers: Improved with addition of antibiotics and draining of lo
culated peritoneal fluid and gallbladder. CT abdomen with rectal contrast with f
ree air near [**Doctor Last Name **]
s pouch concerning for leakage, but no significant change f
rom previous.
- PO vanc and IV vanc d/c
- cont  current abxZosyn # 16, Flagyl #4 and Cipro #3.
- ID rec to narrow abx once sensitivites return w/ Cipro/ flagyl or ctx/flagyl
   # Hypervolemia
 pt fluid overloaded after tx for sepsis. Pt  negative
   400ml overnight.
   - Pt now restarted on Lasix gtt 1-3mg /h
   - goal negative -2L /24h
   #   Anemia
 stable
   #  ARF
 Resolved. Given large contrast exposure recently, will give
   mucomyst and watch carefully.
   - no new ARF
   # FEN- restarted tube feeds at 20, goal 50; holding tonight in
   anticipation of surgery. Sliding scale for lytes, and replete IVF prn
   - increase TF today
   # Access- not able to replace A-line,  stable will not replace
   currently
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALCOHOL ABUSE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 PERITONITIS (NON-SBP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-3-18**] 11:28 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-3-13**] 03:42 PM
   20 Gauge - [**2158-3-16**] 08:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-03-19 10:41:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   hypotensive yesterday, given albumin and LR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2158-3-18**] 03:49 AM
   Ciprofloxacin - [**2158-3-18**] 11:26 PM
   Metronidazole - [**2158-3-19**] 05:31 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-19**] 07:33 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-3-19**] 03:07 AM
   Famotidine (Pepcid) - [**2158-3-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-19**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.4
C (99.3
   HR: 79 (72 - 95) bpm
   BP: 91/55(63) {77/46(55) - 102/61(68)} mmHg
   RR: 34 (28 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
   CVP: 18 (7 - 18)mmHg
   Total In:
                                                                  3,035 mL
                                                                  1,396 mL
   PO:
   TF:
                                                                    840 mL
                                                                    453 mL
   IVF:
                                                                  2,145 mL
                                                                    942 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  3,780 mL
                                                                    710 mL
   Urine:
                                                                  3,405 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
                                                                    225 mL
                                                                    160 mL
   Balance:
                                                                   -745 mL
                                                                    686 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 265 (265 - 265) mL
   RR (Set): 33
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 140
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 98%
   ABG: ///27/
   Ve: 14.4 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Tender: diffusely
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   655 K/uL
   117 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.0 mEq/L
   3 mg/dL
   107 mEq/L
   140 mEq/L
   27.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2158-3-16**]  09:26 PM
                             [**2158-3-17**]  03:23 AM
                             [**2158-3-17**]  08:45 AM
                             [**2158-3-17**]  06:03 PM
                             [**2158-3-18**]  04:21 AM
                             [**2158-3-18**]  04:38 AM
                             [**2158-3-18**]  04:30 PM
                             [**2158-3-18**]  10:42 PM
                             [**2158-3-19**]  01:20 AM
                             [**2158-3-19**]  03:19 AM
   WBC
   8.2
   7.7
   8.2
   Hct
   27.1
   28.1
   25.7
   27.2
   Plt
   644
   683
   655
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   24
   26
   27
   Glucose
   64
   78
   91
   95
   101
   117
   Other labs: PT / PTT / INR:17.1/40.0/1.5, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:[**9-13**], Alk Phos / T Bili:143/1.3,
   Differential-Neuts:83.7 %, Band:0.0 %, Lymph:11.4 %, Mono:3.5 %,
   Eos:1.1 %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:1.2
   mmol/L, Albumin:2.0 g/dL, LDH:167 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   Assessment and Plan
 ALTERED MENTAL STATUS, agitation, tachycardia, hypertension  -
   improved with propofol
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING) -
   stable, follow
 PERITONITIS (NON-SBP) on broad spectrum antibiotics, remains
   afebrile, follow cultures, continue abx
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]) - due to emphysema, lower
   lobe collapse, effusions, working on diuresis - unsuccessfully,
   increase PEEP, CT to evaluate effusions - drain if larger
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER) - s/p
   resection
   ICU Care
   Nutrition:
   Comments: TF's
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-3-13**] 03:42 PM
   20 Gauge - [**2158-3-16**] 08:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2158-03-21 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   54yoF w/ h/o COPD, etoh abuse, transverse colon adenocarcinoma  s/p R
   hemi-colectomy POD # 16, c/b anastomotic leak , peritonitis and AMS,
   and now s/p  ex lap, R colectomy, R diverting illeostomy and [**Doctor Last Name 4888**]
   pouch POD # 12 , and respiratory failure.
   24 Hour Events:
 BLOOD CULTURED - At [**2158-3-20**] 12:30 PM
 URINE CULTURE - At [**2158-3-20**] 12:57 PM
 BLOOD CULTURED - At [**2158-3-20**] 12:58 PM
 SPUTUM CULTURE - At [**2158-3-20**] 12:58 PM
 THORACENTESIS - At [**2158-3-20**] 03:29 PM
 NASAL SWAB - At [**2158-3-21**] 04:05 AM
 FEVER - 103.6
F - [**2158-3-20**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2158-3-19**] 05:31 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-19**] 07:33 AM
   Ciprofloxacin - [**2158-3-19**] 11:59 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2158-3-20**] 07:44 PM
   Heparin Sodium (Prophylaxis) - [**2158-3-21**] 03:20 AM
   Fentanyl - [**2158-3-21**] 04:00 AM
   Other medications:
   Flowsheet Data as of  [**2158-3-21**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 37.9
C (100.3
   HR: 93 (84 - 99) bpm
   BP: 106/63(73) {92/51(64) - 151/78(94)} mmHg
   RR: 24 (22 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
    CVP: 6 (5 - 12)mmHg
   Total In:
                                                                  2,501 mL
                                                                    861 mL
   PO:
   TF:
                                                                  1,143 mL
                                                                    366 mL
   IVF:
                                                                  1,298 mL
                                                                    495 mL
   Blood products:
   Total out:
                                                                  5,555 mL
                                                                  1,785 mL
   Urine:
                                                                  4,480 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
                                                                    875 mL
                                                                    225 mL
   Balance:
                                                                 -3,054 mL
                                                                   -924 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 31 cmH2O
   Compliance: 26.5 cmH2O/mL
   SpO2: 99%
   ABG: ///31/
   Ve: 15.8 L/min
   Physical Examination
   GENERAL: Intubated, agitated. Pt opens eyes to voice does not squeeze
   hands, but does move all limbs spontaneously
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, rate. Normal S1, S2. No murmurs, rubs or
   [**Last Name (un) 2911**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Ostomy pink, liquid stool in bag, midline incision CDI. BS
   hypoactive, TTP diffusely, distended but unchanged, no rebound
   EXTREMITIES: 3+ bilateral pitting edema LE, cutting wounds on bilateral
   UE
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: responds to noxious stimuli, otherwise not responsive, sedated
   Labs / Radiology
   750 K/uL
   10.0 g/dL
   104 mg/dL
   0.3 mg/dL
   31 mEq/L
   3.8 mEq/L
   6 mg/dL
   104 mEq/L
   142 mEq/L
   29.8 %
   8.7 K/uL
        [image002.jpg]
                             [**2158-3-18**]  10:42 PM
                             [**2158-3-19**]  01:20 AM
                             [**2158-3-19**]  03:19 AM
                             [**2158-3-19**]  04:06 PM
                             [**2158-3-19**]  09:50 PM
                             [**2158-3-20**]  03:52 AM
                             [**2158-3-20**]  07:12 AM
                             [**2158-3-20**]  04:00 PM
                             [**2158-3-20**]  10:38 PM
                             [**2158-3-21**]  03:58 AM
   WBC
   8.2
   9.2
   8.0
   8.7
   Hct
   25.7
   27.2
   29.1
   28.3
   27.8
   29.8
   Plt
   655
   753
   750
   750
   Cr
   0.5
   0.5
   0.4
   0.4
   0.4
   0.3
   TCO2
   29
   28
   30
   Glucose
   101
   117
   105
   103
   105
   104
   Other labs: PT / PTT / INR:16.2/36.4/1.5, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:[**7-15**], Alk Phos / T Bili:161/0.8,
   Differential-Neuts:83.7 %, Band:0.0 %, Lymph:11.4 %, Mono:3.5 %,
   Eos:1.1 %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:1.8
   mmol/L, Albumin:2.0 g/dL, LDH:202 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   54yoF w/ h/o COPD, etoh abuse, transverse colon adenocarcinoma  s/p R
   hemi-colectomy POD # 16, c/b anastomotic leak , peritonitis and AMS,
   and now s/p  ex lap, R colectomy, R diverting illeostomy and [**Doctor Last Name 4888**]
   pouch POD # 12 , and respiratory failure.
   #   Respiratory failure - s/p failed extubation.  Likely not improving
   due to pt
s severe COPD and pulm edema, pleural effusions causing
   compression atalectatesis. Now s/p thoracentesis by IP and 4L diuresis
   yest
   - continue elevated PEEP currently at 14 (PIP 28, autopeep at 2)
   - adjust vent per ABGs, wean as tolerated.
   - If unable to wean today post [**Female First Name (un) 231**] and diuresis, will discuss trach
   with surgery
   #  Agitation: better controlled on Propofol drip but with side effect
   of hypotension.
   - restarting fentanyl for pain
#  Leukocytosis/Fevers: Improved with addition of antibiotics and draining of lo
culated peritoneal fluid and gallbladder. CT abdomen with rectal contrast with f
ree air near [**Doctor Last Name **]
s pouch concerning for leakage, but no significant change f
rom previous.
- now on cipro, flagyl PO for pansensitive E coli growing from peritoneal fluid,
 day # 6 but had received many antibiotics prior
   - f/u ID recs
   #. Postop:
   - f/u surgery recs
   # Hypervolemia
 pt fluid overloaded after tx for sepsis. Diuresing
   well without hypotension
   - lasix gtt at 5mg/h
   #  Anemia
 stable
   #  ARF
 Resolved, did not worsen with repeated contrast exposure
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-3-21**] 02:36 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-3-13**] 03:42 PM
   Reattempt Aline today.
   Prophylaxis:
   DVT: Hep
   Stress ulcer: H2
   Code status: Full code
   Disposition: ICU
                       Active Medications [**Known lastname 4820**],[**Known firstname **]
           1. IV access: Peripheral line Order date: [**3-6**] @ 1550
   12. Furosemide 1-5 mg/hr IV DRIP INFUSION  Order date: [**3-18**] @ 0846
   2. IV access: Temporary central access (ICU) Order date: [**3-8**] @ 0431
   13. Haloperidol 1 mg IV Q4H:PRN agitation  Order date: [**3-17**] @ [**2079**]
   3. OK to use line Order date: [**3-13**] @ 1748
   14. Heparin 5000 UNIT SC TID  Order date: [**3-16**] @ 1529
   4. Acetaminophen (Liquid) 325-650 mg PO Q6H:PRN fever, pain
   Per NG tube  Order date: [**3-12**] @ 2227
   15. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**3-6**] @ 1550
   5. Albuterol Inhaler 4 PUFF IH Q6H  Order date: [**3-17**] @ 2042
   16. Ipratropium Bromide MDI 6 PUFF IH QID  Order date: [**3-8**] @ 0947
   6. Calcium Gluconate  IV Sliding Scale Order date: [**3-7**] @ 1651
   17. Magnesium Sulfate  IV Sliding Scale Order date: [**3-10**] @ 0553
   7. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 **]
   Use only if patient is on mechanical ventilation.  Order date: [**3-6**] @
   1550
   18. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H  Order date: [**3-19**] @ 1841
   8. Ciprofloxacin HCl 500 mg PO Q12H  Order date: [**3-19**] @ 1841
   19. Potassium Chloride  IV Sliding Scale
   please use concentrated 20 mEq/50mL  Order date: [**3-10**] @ 0553
   9. Famotidine 20 mg IV Q12H  Order date: [**3-6**] @ 1550
   20. Propofol 20-50 mcg/kg/min IV DRIP TITRATE TO sedation  Order date:
   [**3-18**] @ 1204
   10. Fentanyl Citrate 25-100 mcg IV Q2H:PRN pain  Order date: [**3-20**] @
   1039
   21. Sarna Lotion 1 Appl TP QID:PRN  Order date: [**3-6**] @ 1550
   11. FoLIC Acid 1 mg IV Q24H  Order date: [**3-11**] @ 1408
   22. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**3-8**] @ 0431

2158-03-22 10:40:00 Physician Attending Progress Note
Chief Complaint: Acute on chronic respiratory failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2158-3-21**] 05:00 PM, no cututre of tip sent
 FEVER - 104.8
F - [**2158-3-21**] 08:39 PM
   Didn't tolerate decrease of PEEP to 10, now back up to 12
   Hypotension with high temperature, lasix drip discontinued, received 1L
   bolus
   Vanco/zosyn restarted to cover the lung
   Has been mobilizing secretions from ETT albeit have been white in
   appearance
   Had dard red blood per rectum overnight, ~300-500 cc, Hct remained
   stable
   Propofol drip discontinued, continues fentanyl drip at 25 mg/hr
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2158-3-19**] 11:59 AM
   Piperacillin - [**2158-3-21**] 09:39 PM
   Vancomycin - [**2158-3-21**] 09:39 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-3-21**] 09:25 PM
   Famotidine (Pepcid) - [**2158-3-22**] 08:00 AM
   Fentanyl - [**2158-3-22**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-22**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.4
C (104.8
   Tcurrent: 37
C (98.6
   HR: 84 (80 - 131) bpm
   BP: 92/46(57) {83/36(43) - 148/105(112)} mmHg
   RR: 17 (17 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
   CVP: 11 (6 - 11)mmHg
   Total In:
                                                                  4,729 mL
                                                                    225 mL
   PO:
   TF:
                                                                    749 mL
   IVF:
                                                                  2,820 mL
                                                                    155 mL
   Blood products:
                                                                     40 mL
                                                                     10 mL
   Total out:
                                                                  5,690 mL
                                                                  1,055 mL
   Urine:
                                                                  4,065 mL
                                                                    460 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
                                                                    425 mL
                                                                    195 mL
   Balance:
                                                                   -961 mL
                                                                   -830 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 524 (524 - 524) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 24 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 100%
   ABG: 7.56/35/66/26/8
   Ve: 8.1 L/min
   PaO2 / FiO2: 165
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered , Diminished:
   bases)
   Abdominal: Bowel sounds present, Distended, occcasional BS
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, No evident rash, erythema over upper extremities
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   512 K/uL
   80 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   9 mg/dL
   99 mEq/L
   135 mEq/L
   29.6 %
   16.4 K/uL
        [image002.jpg]
                             [**2158-3-19**]  09:50 PM
                             [**2158-3-20**]  03:52 AM
                             [**2158-3-20**]  07:12 AM
                             [**2158-3-20**]  04:00 PM
                             [**2158-3-20**]  10:38 PM
                             [**2158-3-21**]  03:58 AM
                             [**2158-3-21**]  07:46 AM
                             [**2158-3-21**]  05:07 PM
                             [**2158-3-21**]  08:17 PM
                             [**2158-3-22**]  02:58 AM
   WBC
   9.2
   8.0
   8.7
   16.4
   Hct
   29.1
   28.3
   27.8
   29.8
   29.6
   Plt
   753
   750
   750
   512
   Cr
   0.4
   0.4
   0.4
   0.3
   0.4
   0.6
   TCO2
   28
   30
   34
   32
   Glucose
   105
   103
   105
   104
   98
   80
   Other labs: PT / PTT / INR:18.5/42.7/1.7, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:[**7-15**], Alk Phos / T Bili:161/0.8,
   Differential-Neuts:73.0 %, Band:0.0 %, Lymph:15.0 %, Mono:5.0 %,
   Eos:5.0 %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:2.2
   mmol/L, Albumin:2.0 g/dL, LDH:202 IU/L, Ca++:7.3 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.7 mg/dL
   Imaging: Abdominal CT:  No free air in [**Doctor Last Name 5012**] pouch worse then
   before, retained contrast, loculated fluid in abdomen.
   Microbiology: No new culture data
   Sputum:  < 10 polys, no organisms
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):  While
   she is mobilizing secretions from her lungs they do not appear
   purulent, may be from resolving prior VAP.  The central line was
   discontinued early in the day yesterday.
 HYPOTENSION:  In setting of fever need to consider recurrent
   infection and early sepsis albeit also had been aggresively diuresed
   and was likley intravascularly depleted.  Responded well to limited
   fluid challenge.  She was pancultured.  She also had blood per rectum
   that was not described as 'old' looking so concerned about more acute
   bleeding in setting of labile BP over the course of the day yesterday.
   Hct has been stable so will continue to follow serial Hcts.  Also given
   high fevers, some eosinophilia on diff yesterday and housestaff noting
   rash yesterday also need to consider drug fever. Most likely related to
   one of the antibiotics that she is on.  Given the confusing picture
   from an ID standpoint and even with increased WBC overnight and labile
   BP which she has other reasons to explain
 COAGULOPATHY:  [**Month (only) 11**] be related to being on broad spectrum abx.  Will
   give vitamin K given concern about blood loss.
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Likely realted to
   aggressive diuresis, transient hypotension, and received contrast with
   the abdominal CT.   Has received some fluid back, will follow repeat
   electrolytes.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING): As
   above.
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): On fentanyl
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2158-3-21**] 11:54 AM
   20 Gauge - [**2158-3-21**] 08:48 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 65 minutes  Patient is critically ill

2158-03-23 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2158-3-22**] 01:30 PM
   pt self extubated.
 INVASIVE VENTILATION - STOP [**2158-3-22**] 01:30 PM
   - SELF EXTUBATED!!!!!!! at 1:30 pm (had been planned for extubation or
   trach at 3pm) and started saying "I don't need this tube" :) Continued
   to sat high 90s with supplemental oxygen (NC and shovel mask). Was OOB
   to chair sitting up, asking for coffee.
   - no more fevers but bandemia from AM concerning so kept on
   antibiotics. Potentially planned for CT guided drainage of abdominal
   collections tomorrow.
   - Around 7am pt had incr resp distress, HR inc from 100 -> 127, BP incr
   to 156/102 and O2 sat dropped to 81%. Pt
s ABG 7.38/ 50 / 55. Pt
   lasix gtt was stopped around 4am,  but received 40 IV x1, and morphine
   2mg.
   - Pt back on CPAP now
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2158-3-21**] 09:39 PM
   Vancomycin - [**2158-3-22**] 07:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-22**] 10:38 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2158-3-22**] 12:00 PM
   Famotidine (Pepcid) - [**2158-3-22**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2158-3-22**] 07:30 PM
   Furosemide (Lasix) - [**2158-3-23**] 07:26 AM
   Morphine Sulfate - [**2158-3-23**] 07:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-23**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 124 (84 - 124) bpm
   BP: 156/102(114) {86/39(49) - 156/102(114)} mmHg
   RR: 18 (16 - 33) insp/min
   SpO2: 81%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
             Total In:
                                                                    964 mL
                                                                    297 mL
   PO:
             180 mL
   TF:
   IVF:
                                                                    834 mL
                                                                    117 mL
   Blood products:
                                                                     10 mL
   Total out:
                                                                  1,955 mL
                                                                    515 mL
   Urine:
                                                                  1,110 mL
                                                                    420 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
                                                                    345 mL
                                                                     95 mL
   Balance:
                                                                   -991 mL
                                                                   -218 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask , Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 469 (469 - 524) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 70%
   PIP: 19 cmH2O
   SpO2: 81%
   ABG: 7.50/40/116/31/7
   Ve: 9.3 L/min
   PaO2 / FiO2: 166
   Physical Examination
   GENERAL:  extubated, following commands
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, rate. Normal S1, S2. No murmurs, rubs or
   [**Last Name (un) 2911**].
   LUNGS: CTAB anteriorly
   ABDOMEN: Ostomy pink, liquid stool in bag, midline incision CDI. BS
   hypoactive, TTP diffusely, distended but unchanged, no rebound
   EXTREMITIES: 2+ bilateral pitting edema LE, cutting wounds on bilateral
   UE
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   488 K/uL
   9.4 g/dL
   94 mg/dL
   0.4 mg/dL
   31 mEq/L
   2.9 mEq/L
   10 mg/dL
   100 mEq/L
   137 mEq/L
   28.2 %
   12.5 K/uL
        [image002.jpg]
                             [**2158-3-20**]  07:12 AM
                             [**2158-3-20**]  04:00 PM
                             [**2158-3-20**]  10:38 PM
                             [**2158-3-21**]  03:58 AM
                             [**2158-3-21**]  07:46 AM
                             [**2158-3-21**]  05:07 PM
                             [**2158-3-21**]  08:17 PM
                             [**2158-3-22**]  02:58 AM
                             [**2158-3-22**]  12:26 PM
                             [**2158-3-23**]  03:00 AM
   WBC
   8.0
   8.7
   16.4
   12.5
   Hct
   28.3
   27.8
   29.8
   29.6
   34
   28.2
   Plt
   750
   750
   512
   488
   Cr
   0.4
   0.4
   0.3
   0.4
   0.6
   0.4
   TCO2
   30
   34
   32
   32
   Glucose
   103
   105
   104
   98
   80
   101
   94
   Other labs: PT / PTT / INR:18.5/42.7/1.7, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:[**7-15**], Alk Phos / T Bili:161/0.8,
   Differential-Neuts:80.0 %, Band:13.0 %, Lymph:2.0 %, Mono:3.0 %,
   Eos:2.0 %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:1.2
   mmol/L, Albumin:2.0 g/dL, LDH:202 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   54yoF w/ h/o COPD, etoh abuse, transverse colon adenocarcinoma  s/p R
   hemi-colectomy POD # 16, c/b anastomotic leak , peritonitis and AMS,
   and now s/p  ex lap, R colectomy, R diverting illeostomy and [**Doctor Last Name 4888**]
   pouch POD # 12 , and respiratory failure.
   #   Hypoxic respiratory failure
 Pt self extubated [**3-22**]. Pt
s O2 sat
   dropped to 81% this AM. Pt may have developed flash pulmonary edema,
   since became tachycardic and hypertensive [**1-30**] ?agitation, or another
   possiblity is that pt
s lasix gtt was stopped at 4am, and may have
   reaccumulated pleural fluid and then became tachypneic causing
   tachycardia. Other possiblities are mucous plugging, atalectasis, or
   acute worsening of pt
s COPD.
   - will d/w surgery to give solumedrol 125 x1
   - moniter carefully, continue bipap for now, may need to reintubate
   - recheck ABG
   - restarting lasix gtt
   # Hypotension- [**1-30**] lasix gtt, and positive pressure from bipap. Sepsis
   much less likely currently-  afebrile and not toxic apearring.
   - will titrate lasix to keep MAP >60
   - IVF if still hypotensive
   # Leukocytosis
 diff from yesterday 13% bands, new diff pending. Most
   likely source abdomen. VAP also possiblity but less likely w/ improving
   CXR. Will cover for both
- continue Vanc, Zosyn.
- f/u cultures
   - f/u ID recs
   # Hypervolemia
 goal diuresis negative 1L / 24h using lasix gtt, will
   titrate to keep map > 60 as above
   # BRBPR: expected post op but per report fresh blood.
   - follow Hct [**Hospital1 **]
   #  ARF
 Cr bumped from 0.3 to 0.6 in setting of hypotension overnight
   and contrast  exposure.  Creatinine still near baseline. Will monitor
   closely.
   # [**Name (NI) **] pt no longer has R IJ, and no A-line, will attempt to get
   PICC today
   # FEN: surgery started pt on liquid diet
   # PPx: SubQ hep [**Hospital1 **], pneumoboots, PPI
   # Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2158-3-21**] 11:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-03-23 09:10:00 Physician Attending Progress Note
Chief Complaint: Acute on chronic respiraotry failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2158-3-22**] 01:30 PM
   pt self extubated.
 INVASIVE VENTILATION - STOP [**2158-3-22**] 01:30 PM
   Was doing fairly well after self-extubation until approximately
   midnight when she had an episode of respiratory distress, suctioned for
   moderate amount of posterior oropharyngeal secretions, cntinued on
   lasix drip
   Recurrent respiratory distress this morning, tachypnea and agitation,
   desaturation to 85% on HFFM, given lasix bolus as lasix drip held since
   ~4 am secondary to hypokalemia K 2.8
   Started on BiPAP
   History obtained from Patient, housestaff overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2158-3-21**] 09:39 PM
   Vancomycin - [**2158-3-22**] 07:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-22**] 10:38 PM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Fentanyl - [**2158-3-22**] 12:00 PM
   Famotidine (Pepcid) - [**2158-3-22**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2158-3-22**] 07:30 PM
   Morphine Sulfate - [**2158-3-23**] 08:15 AM
   Furosemide (Lasix) - [**2158-3-23**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Respiratory: Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-3-23**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 124 (84 - 124) bpm
   BP: 156/102(114) {86/39(49) - 156/102(114)} mmHg
   RR: 18 (16 - 33) insp/min
   SpO2: 81%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
             Total In:
                                                                    964 mL
                                                                    397 mL
   PO:
             280 mL
   TF:
   IVF:
                                                                    834 mL
                                                                    117 mL
   Blood products:
                                                                     10 mL
   Total out:
                                                                  1,955 mL
                                                                    715 mL
   Urine:
                                                                  1,110 mL
                                                                    620 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
                                                                    345 mL
                                                                     95 mL
   Balance:
                                                                   -991 mL
                                                                   -318 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 630 (469 - 630) mL
   PS : 14 cmH2O
   RR (Set): 16
   RR (Spontaneous): 39
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   SpO2: 81%
   ABG: 7.38/50/55/31/2
   Ve: 16.6 L/min
   PaO2 / FiO2: 110
   Physical Examination
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: throughout, poor air
   movement)
   Abdominal: Soft, Non-tender, Bowel sounds present, dressing clean and
   dry; staples in tact
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   488 K/uL
   94 mg/dL
   0.4 mg/dL
   31 mEq/L
   2.9 mEq/L
   10 mg/dL
   100 mEq/L
   137 mEq/L
   28.2 %
   12.5 K/uL
        [image002.jpg]
                             [**2158-3-20**]  04:00 PM
                             [**2158-3-20**]  10:38 PM
                             [**2158-3-21**]  03:58 AM
                             [**2158-3-21**]  07:46 AM
                             [**2158-3-21**]  05:07 PM
                             [**2158-3-21**]  08:17 PM
                             [**2158-3-22**]  02:58 AM
                             [**2158-3-22**]  12:26 PM
                             [**2158-3-23**]  03:00 AM
                             [**2158-3-23**]  07:41 AM
   WBC
   8.0
   8.7
   16.4
   12.5
   Hct
   28.3
   27.8
   29.8
   29.6
   34
   28.2
   Plt
   750
   750
   512
   488
   Cr
   0.4
   0.4
   0.3
   0.4
   0.6
   0.4
   TCO2
   34
   32
   32
   31
   Glucose
   103
   105
   104
   98
   80
   101
   94
   Other labs: PT / PTT / INR:18.5/42.7/1.7, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:[**7-15**], Alk Phos / T Bili:161/0.8,
   Differential-Neuts:80.0 %, Band:13.0 %, Lymph:2.0 %, Mono:3.0 %,
   Eos:2.0 %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:2.2
   mmol/L, Albumin:2.0 g/dL, LDH:202 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.4 mg/dL
   Fluid analysis / Other labs: Pleural fluid: NGTD
   Sputum: NGTD
   BCX: NGTD
   Imaging: CXR:
   Assessment and Plan
 ACUTE ON CHRONIC RESPIRATORY DISTRESS:  Likely multifactorial with
   persistent total body fluid overload, bilateral pleural effusions,
   continues to be negative with diuresis.  Running out of options for
   optimizing her underlying COPD.  Have been holding off on starting
   steroids given unclear ID pitcure, concern over loculated fluid
   collections in the abdomen. Will discuss with surgical team prior to
   starting. At this point would try IV steroids as we try to keep her
   from being reintubated and requiring tracheostomy.  Could have
   aspirated this morning given notation of significant upper airway
   seccretiions.  continue BiPAP. With tachycardia/hypertension in setting
   of respiraotry distress also need to consider flash pulmonary edema,
   seems to have settled down with restarting lasix and morphine to reduce
   preload.  Surgical service made the decision to continue vanco/zosyn
   albeit unclear what we are covering. WBC back down today.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING):  No
   further significant blood per rectum.  Hct remains stable.  Continue to
   monitor labs.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Stable Cr,
   tolerating diuresis. Continues to be total body fluid overload so
   continue to have goal to keep ~1L negative over next 24 hours.
 PERITONITIS (NON-SBP):  Still concerned about loculated fluid
   collections in abdomen.  On abx.  Surgical service considering need to
   drain these collections.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2158-3-21**] 11:53 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes
   Patient is critically ill

2158-03-24 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2158-3-23**] 05:10 PM
   - Pt negative 500ml by 5pm, then UOP tapering off to 30cc/h. Surgery at
   that point began lasix bolus on top of gtt, 20 IV, and Acetazolamide
   250 IV x6 x4doses, and 25g albumin.
   - Pt alert but very agitated, tried ativan 1mg, then haldol 4mg POx1
   which helped
   - Around 11pm, bt became tachycardic to 120s, RR 40, changed from
   facemask to bipap, but still 02 sat decr 90%. Neb tx given, and
   additional 40 IV lasix. Pt was given morphine 2mg IV x2 (since this
   helped w/ similar episode at 7am), ativan 1mg, ABG 7.37 /50/ 86/ 30.
   Did not reintubate. Pt eventually calmed down, and went to sleep.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2158-3-21**] 09:39 PM
   Vancomycin - [**2158-3-23**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-24**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2158-3-23**] 10:33 AM
   Heparin Sodium (Prophylaxis) - [**2158-3-23**] 08:00 PM
   Furosemide (Lasix) - [**2158-3-23**] 11:00 PM
   Lorazepam (Ativan) - [**2158-3-23**] 11:25 PM
   Haloperidol (Haldol) - [**2158-3-23**] 11:50 PM
   Morphine Sulfate - [**2158-3-24**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-24**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.2
   HR: 106 (97 - 131) bpm
   BP: 112/81(88) {83/48(57) - 156/102(114)} mmHg
   RR: 35 (20 - 44) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
             Total In:
                                                                  1,407 mL
                                                                    222 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                  1,077 mL
                                                                    222 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  1,987 mL
                                                                    710 mL
   Urine:
                                                                  1,542 mL
                                                                    480 mL
   NG:
   Stool:
   40 mL
   Drains:
                                                                    445 mL
                                                                    150 mL
   Balance:
                                                                   -580 mL
                                                                   -488 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 686 (548 - 1,047) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.37/50/86/31/1
   Ve: 16.6 L/min
   PaO2 / FiO2: 143
   Physical Examination
   GENERAL:  extubated, following commands
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, rate. Normal S1, S2. No murmurs, rubs or
   [**Last Name (un) 2911**].
   LUNGS: CTAB anteriorly
   ABDOMEN: Ostomy pink, liquid stool in bag, midline incision CDI. BS
   hypoactive, TTP diffusely, distended but unchanged, no rebound
   EXTREMITIES: 2+ bilateral pitting edema LE, cutting wounds on bilateral
   UE
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   488 K/uL
   9.4 g/dL
   86 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.9 mEq/L
   10 mg/dL
   101 mEq/L
   137 mEq/L
   28.2 %
   12.5 K/uL
        [image002.jpg]
                             [**2158-3-21**]  03:58 AM
                             [**2158-3-21**]  07:46 AM
                             [**2158-3-21**]  05:07 PM
                             [**2158-3-21**]  08:17 PM
                             [**2158-3-22**]  02:58 AM
                             [**2158-3-22**]  12:26 PM
                             [**2158-3-23**]  03:00 AM
                             [**2158-3-23**]  07:41 AM
                             [**2158-3-23**]  03:02 PM
                             [**2158-3-23**]  11:42 PM
   WBC
   8.7
   16.4
   12.5
   Hct
   29.8
   29.6
   34
   28.2
   Plt
   750
   512
   488
   Cr
   0.3
   0.4
   0.6
   0.4
   0.5
   TCO2
   34
   32
   32
   31
   30
   Glucose
   104
   98
   80
   101
   94
   86
   Other labs: PT / PTT / INR:18.5/42.7/1.7, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:[**7-15**], Alk Phos / T Bili:161/0.8,
   Differential-Neuts:89.0 %, Band:3.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:3.0
   %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.0 g/dL, LDH:202 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   54yoF w/ h/o COPD, etoh abuse, transverse colon adenocarcinoma  s/p R
   hemi-colectomy POD # 19, c/b anastomotic leak , peritonitis and AMS,
   and now s/p  ex lap, R colectomy, R diverting illeostomy and [**Doctor Last Name 4888**]
   pouch POD # 15 , and respiratory failure.
   #   Hypoxic respiratory failure
 Pt self extubated [**3-22**]. Pt
s O2 sat
   dropped to 81% this AM. Pt became tachypneic/tachycardic and agitated
   at 11pm as she did in the morning. Then it was thought pt may have
   developed flash pulmonary edema vs. mucous plugging vs. atelectasis.
   Overnight pt
s RR improved on bipap, morphine, ativan, and haldol.
   Pt
s Cr rose and likely overdiuresed overnight. Current respiratory
   distress most likely from COPD since VAP resolving, and overdiuresis.
   - holding off on solumedrol per surgery, cont nebs
   - continue bipap, may need to reintubate
   - gentle diuresis today, goal negative 1L
   .
   # Hypotension- [**1-30**] lasix gtt, and positive pressure from bipap. Sepsis
   much less likely currently-  afebrile and not toxic apearring.
   - will titrate lasix to keep MAP >60
   - IVF if still hypotensive
   #  ARF
 baseline Cr 0.4 over last couple days, now nearly doubled to
   0.7. Pt overdiuresed last night.
   - gentle diuresis as above
   # Leukocytosis
 resolved today, likely [**1-30**] resolving VAP, and
   intrabdominal collections, but no recent CT scan.
   - d/c
d Vanco, continue Zosyn
   # Hypervolemia
 goal diuresis negative 1L / 24h using lasix gtt, will
   titrate to keep map > 60 as above
   # BRBPR: expected post op but per report fresh blood, but pt did have
   another 100cc of maroon blood.
   - follow Hct [**Hospital1 **]
   # LE edema
 asymmetric, R>L . Will recheck LENIs today
   # Access- PICC placed today by IV team, but needs repositiong as going
   upward in IJ. If stable will send pt to IR.
   # FEN: surgery wants to start TPN when central access obtained
   # PPx: SubQ hep [**Hospital1 **], pneumoboots, PPI
   # Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2158-3-23**] 10:10 AM
   20 Gauge - [**2158-3-23**] 10:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
             IV access: Peripheral line Order date: [**3-6**] @ 1550
   19. Haloperidol 4 mg PO TID:PRN  Order date: [**3-24**] @ 0203
   2. OK to use line Order date: [**3-13**] @ 1748
   20. Heparin 5000 UNIT SC BID  Order date: [**3-22**] @ 1039
   3. Acetaminophen (Liquid) 325-650 mg PO Q6H:PRN fever, pain
   Per NG tube  Order date: [**3-12**] @ 2227
   21. IV access request: PICC Place Urgency: Urgent Order date: [**3-23**] @
   1219
   4. AcetaZOLamide 250 mg IV Q6H Duration: 4 Doses Order date: [**3-23**] @
   1449
   22. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**3-6**] @ 1550
   5. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN  Order date: [**3-22**] @ 1704
   23. Ipratropium Bromide Neb 1 NEB IH Q6H  Order date: [**3-22**] @ 1704
   6. Albumin 25% (12.5g / 50mL) 12.5 g IV ONCE Duration: 1 Doses Start:
   [**2158-3-23**] Order date: [**3-23**] @ 0929
   24. Lorazepam 0.5 mg IV ONCE MR1 Duration: 1 Doses Order date: [**3-23**] @
   1534
   7. Albumin 25% (12.5g / 50mL) 12.5 g IV ONCE Duration: 1 Doses Order
   date: [**3-23**] @ 1736
   25. Lorazepam 1 mg IV ONCE Duration: 1 Doses Order date: [**3-24**] @ 0203
   8. Budesonide *NF* 0.5 mg/2 mL Inhalation [**Hospital1 **]  Order date: [**3-23**] @ 1352
   26. Magnesium Sulfate  IV Sliding Scale Order date: [**3-10**] @ 0553
   9. Calcium Gluconate  IV Sliding Scale Order date: [**3-7**] @ 1651
   27. Morphine Sulfate 2 mg IV ONCE Duration: 1 Doses Order date: [**3-24**] @
   0203
   10. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 **]
   Use only if patient is on mechanical ventilation.  Order date: [**3-6**] @
   1550
   28. Morphine Sulfate 2 mg IV ONCE Duration: 1 Doses Order date: [**3-24**] @
   0203
   11. Famotidine 20 mg IV Q12H  Order date: [**3-6**] @ 1550
   29. Piperacillin-Tazobactam Na 4.5 g IV Q8H  Order date: [**3-22**] @ 1221
   12. Fentanyl Citrate 25-100 mcg/hr IV DRIP INFUSION  Order date: [**3-22**]
   @ 0211
   30. Potassium Chloride  IV Sliding Scale
   please use concentrated 20 mEq/50mL  Order date: [**3-10**] @ 0553
   13. FoLIC Acid 1 mg IV Q24H  Order date: [**3-11**] @ 1408
   31. Potassium Chloride 40 mEq PO ONCE Duration: 1 Doses Order date:
   [**3-23**] @ 0807
   14. Furosemide 1-5 mg/hr IV DRIP INFUSION  Order date: [**3-18**] @ 0846
   32. Propofol 20-50 mcg/kg/min IV DRIP TITRATE TO sedation  Order date:
   [**3-18**] @ 1204
   15. Furosemide 20 mg IV ONCE Duration: 1 Doses Order date: [**3-23**] @ 0807
   33. Sarna Lotion 1 Appl TP QID:PRN  Order date: [**3-6**] @ 1550
   16. Furosemide 20 mg IV ONCE Duration: 1 Doses Order date: [**3-23**] @ 2043
   34. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**3-8**] @ 0431
   17. Furosemide 40 mg IV ONCE Duration: 1 Doses
   already given  Order date: [**3-24**] @ 0203
   35. Vancomycin 1000 mg IV Q 12H  Order date: [**3-22**] @ 1221
   18. Haloperidol 4 mg PO ONCE Duration: 1 Doses Order date: [**3-23**] @ 1638

2158-03-24 10:43:00 Physician Attending Progress Note
Chief Complaint: Acute on chronic respiratory failure, anastamotic leak
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2158-3-23**] 05:10 PM
   Agitated intermittently through the night, Sa02 remained approximately
   90-91%, tachypneic, appeared mottled, cyanotic, received 4 mg IV
   morphine, 1 mg ativan.  Started on haldol.
   7.37/50/86 on BiPAP
   Received albumin and diamox, not responsive to further diuresis, lasix
   drip stopped
   This morning on rounds she had another epidsode of tachypnea,
   tachycardia - received IV bolus lasix
   Rectal bleeding, maroon liquid, ~100cc, surgery service called and
   aware overnight
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2158-3-21**] 09:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-24**] 06:00 AM
   Vancomycin - [**2158-3-24**] 07:40 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-3-23**] 08:00 PM
   Furosemide (Lasix) - [**2158-3-23**] 11:00 PM
   Lorazepam (Ativan) - [**2158-3-23**] 11:25 PM
   Haloperidol (Haldol) - [**2158-3-23**] 11:50 PM
   Morphine Sulfate - [**2158-3-24**] 12:15 AM
   Famotidine (Pepcid) - [**2158-3-24**] 08:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea, Tachypnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-3-24**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.8
C (96.5
   HR: 93 (93 - 131) bpm
   BP: 92/69(74) {83/48(57) - 140/98(106)} mmHg
   RR: 22 (20 - 44) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
             Total In:
                                                                  1,407 mL
                                                                    594 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                  1,077 mL
                                                                    594 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  1,987 mL
                                                                    790 mL
   Urine:
                                                                  1,542 mL
                                                                    560 mL
   NG:
   Stool:
   40 mL
   Drains:
                                                                    445 mL
                                                                    150 mL
   Balance:
                                                                   -580 mL
                                                                   -196 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 604 (548 - 1,047) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.37/50/86/29/1
   Ve: 16.3 L/min
   PaO2 / FiO2: 143
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Non-tender, Bowel sounds present, Tender: LLQ with
   palpation
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   450 K/uL
   108 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.1 mEq/L
   13 mg/dL
   100 mEq/L
   137 mEq/L
   27.5 %
   6.3 K/uL
        [image002.jpg]
                             [**2158-3-21**]  07:46 AM
                             [**2158-3-21**]  05:07 PM
                             [**2158-3-21**]  08:17 PM
                             [**2158-3-22**]  02:58 AM
                             [**2158-3-22**]  12:26 PM
                             [**2158-3-23**]  03:00 AM
                             [**2158-3-23**]  07:41 AM
                             [**2158-3-23**]  03:02 PM
                             [**2158-3-23**]  11:42 PM
                             [**2158-3-24**]  09:16 AM
   WBC
   16.4
   12.5
   6.3
   Hct
   29.6
   34
   28.2
   27.5
   Plt
   [**Telephone/Fax (3) 5062**]
   Cr
   0.4
   0.6
   0.4
   0.5
   0.7
   TCO2
   34
   32
   32
   31
   30
   Glucose
   98
   80
   101
   94
   86
   108
   Other labs: PT / PTT / INR:18.5/42.7/1.7, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:[**7-15**], Alk Phos / T Bili:161/0.8,
   Differential-Neuts:89.0 %, Band:3.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:3.0
   %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.0 g/dL, LDH:202 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.4
   mg/dL
   Assessment and Plan
ACUTE ON CHRONIC RESPIRATORY FAILURE: Mulitfactorial with underlying
   COPD, resolving VAP, volume overload. No significant improvement
   despite trying to aggressively diurese.  Now seing a rise in her Cr and
   borderline blood pressures.   Her WBC is normal today and she has not
   had further fever spikes so doubt recurrent PNA.  Bronchodilators q 4
   hours.  Inhaled corticosteroids started.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Cr bump with
   continued diuresis attempts.
 ALCOHOL ABUSE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING):  Had
   another episode of maroon liquid per rectum overnight.  Hct went from
   28.2 to 27.5. Will continue to monitor CBCs and rectal output.
   Surgical service aware of this event overnight.
ASSYMETRIC LE EDEMA:  Given risk for DVT will check LENIs.
 PERITONITIS (NON-SBP):  Will continue zosyn at this point, stop
   vancomycin.
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2158-3-23**] 10:10 AM
   20 Gauge - [**2158-3-23**] 10:10 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2158-03-25 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 54yoF w/ h/o COPD, etoh abuse, transverse colon
   adenocarcinoma  s/p R hemi-colectomy POD # 19, c/b anastomotic leak ,
   peritonitis and AMS, and now s/p  ex lap, R colectomy, R diverting
   illeostomy and [**Doctor Last Name 4888**] pouch POD # 15 , and respiratory failure.
   24 Hour Events:
 MIDLINE - START [**2158-3-24**] 01:34 PM
   - Uploaded OSH scans, Confirmed PE
   - IVC filter placed
   - Hct stable
   - GI did EGD, diffuse edema in duodenum, no e/o fresh blood
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2158-3-24**] 07:40 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-25**] 06:12 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2158-3-24**] 04:45 PM
   Famotidine (Pepcid) - [**2158-3-24**] 08:24 PM
   Heparin Sodium (Prophylaxis) - [**2158-3-24**] 08:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-25**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.3
   HR: 88 (83 - 106) bpm
   BP: 112/74(82) {83/58(63) - 129/87(97)} mmHg
   RR: 18 (18 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
             Total In:
                                                                  1,468 mL
                                                                    412 mL
   PO:
             TF:
                                                                      5 mL
                                                                     79 mL
   IVF:
                                                                  1,463 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                    495 mL
   Urine:
                                                                  1,285 mL
                                                                    445 mL
   NG:
   Stool:
                                                                     40 mL
   Drains:
                                                                    250 mL
                                                                     50 mL
   Balance:
                                                                   -147 mL
                                                                    -83 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 997 (604 - 997) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 9 L/min
   Physical Examination
   GENERAL:  extubated, following commands
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, rate. Normal S1, S2. No murmurs, rubs or
   [**Last Name (un) 2911**].
   LUNGS: CTAB anteriorly
   ABDOMEN: Ostomy pink, liquid stool in bag, midline incision CDI. BS
   hypoactive, TTP diffusely, distended but unchanged, no rebound
   EXTREMITIES: 2+ bilateral pitting edema LE, cutting wounds on bilateral
   UE
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   454 K/uL
   9.0 g/dL
   135 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.3 mEq/L
   16 mg/dL
   102 mEq/L
   139 mEq/L
   28.7 %
   4.6 K/uL
        [image002.jpg]
                             [**2158-3-21**]  05:07 PM
                             [**2158-3-21**]  08:17 PM
                             [**2158-3-22**]  02:58 AM
                             [**2158-3-22**]  12:26 PM
                             [**2158-3-23**]  03:00 AM
                             [**2158-3-23**]  07:41 AM
                             [**2158-3-23**]  03:02 PM
                             [**2158-3-23**]  11:42 PM
                             [**2158-3-24**]  09:16 AM
                             [**2158-3-25**]  03:06 AM
   WBC
   16.4
   12.5
   6.3
   4.6
   Hct
   29.6
   34
   28.2
   27.5
   28.7
   Plt
   [**Telephone/Fax (3) 5067**]54
   Cr
   0.4
   0.6
   0.4
   0.5
   0.7
   0.6
   TCO2
   32
   32
   31
   30
   Glucose
   98
   80
   101
   94
   86
   108
   135
   Other labs: PT / PTT / INR:18.5/42.7/1.7, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:[**7-15**], Alk Phos / T Bili:161/0.8,
   Differential-Neuts:89.0 %, Band:3.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:3.0
   %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.0 g/dL, LDH:202 IU/L, Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:3.5
   mg/dL
   Imaging: CXR
   Interval repositioning of the malpositioned right PICC. The dobhoff
   tube is extending into the stomach, in standard location. There is
   moderate bilateral pleural effusion and basilar opacaities likely
   atelectasis, overall slightly worse. Unchanged background moderate
   pulmonary edema.
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALCOHOL ABUSE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 PERITONITIS (NON-SBP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   54yoF w/ h/o COPD, etoh abuse, transverse colon adenocarcinoma  s/p R
   hemi-colectomy POD # 19, c/b anastomotic leak , peritonitis and AMS,
   and now s/p  ex lap, R colectomy, R diverting illeostomy and [**Doctor Last Name 4888**]
   pouch POD # 15 , and respiratory failure.
   #   Hypoxic respiratory failure
 Pt self extubated [**3-22**]. Pt
s O2 sat
   dropped to 81% this AM. Pt became tachypneic/tachycardic and agitated
   at 11pm as she did in the morning. Then it was thought pt may have
   developed flash pulmonary edema vs. mucous plugging vs. atelectasis.
   Overnight pt
s RR improved on bipap, morphine, ativan, and haldol.
   Pt
s Cr rose and likely overdiuresed overnight. Current respiratory
   distress most likely from COPD since VAP resolving, and overdiuresis.
   - holding off on solumedrol per surgery, cont nebs
   - continue bipap, may need to reintubate
   - gentle diuresis today, goal negative 1L
   # Hypotension- [**1-30**] lasix gtt, and positive pressure from bipap. Sepsis
   much less likely currently-  afebrile and not toxic apearring.
   - will titrate lasix to keep MAP >60
   - IVF if still hypotensive
   #  ARF
 baseline Cr 0.4 over last couple days, now nearly doubled to
   0.7. Pt overdiuresed last night.
   - gentle diuresis as above
   # Leukocytosis
 resolved today, likely [**1-30**] resolving VAP, and
   intrabdominal collections, but no recent CT scan.
   - d/c
d Vanco, continue Zosyn
   # Hypervolemia
 goal diuresis negative 1L / 24h using lasix gtt, will
   titrate to keep map > 60 as above
   # BRBPR: expected post op but per report fresh blood, but pt did have
   another 100cc of maroon blood.
   - follow Hct [**Hospital1 **]
   # LE edema
 asymmetric, R>L . Will recheck LENIs today
   # Access- PICC placed today by IV team, but needs repositiong as going
   upward in IJ. If stable will send pt to IR.
   # FEN: surgery wants to start TPN when central access obtained
   # PPx: SubQ hep [**Hospital1 **], pneumoboots, PPI
   # Full code
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-3-24**] 11:30 PM 20 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2158-3-23**] 10:10 AM
   20 Gauge - [**2158-3-23**] 10:10 AM
   Midline - [**2158-3-24**] 01:34 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-03-25 08:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   54yoF w/ h/o COPD, etoh abuse, transverse colon adenocarcinoma  s/p R
   hemi-colectomy POD # 19, c/b anastomotic leak , peritonitis and AMS,
   and now s/p  ex lap, R colectomy, R diverting illeostomy and [**Doctor Last Name 4888**]
   pouch POD # 15 , and respiratory failure.
   24 Hour Events:
 MIDLINE - START [**2158-3-24**] 01:34 PM
   - Pt on bipap most of day
   - Stopped lasix gtt in am as pt hypotensive in 70's and symptomatic
   (improved in trendelenberg), did not end up getting fluid bolus.
   - [**Doctor First Name 3**] placed dobhoff to start feeding
   - PICC placed but ended up in RIJ, so pulled back to make a midline
   - Started TF at Dr[**Name (NI) 5071**] goal of 20cc/h
   - Per [**Doctor First Name **] recs got Lasix 20 IV x1 in afternoon
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2158-3-24**] 07:40 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-25**] 06:12 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2158-3-24**] 04:45 PM
   Famotidine (Pepcid) - [**2158-3-24**] 08:24 PM
   Heparin Sodium (Prophylaxis) - [**2158-3-24**] 08:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-25**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.3
   HR: 90 (83 - 103) bpm
   BP: 114/72(82) {83/58(63) - 129/87(97)} mmHg
   RR: 22 (18 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
             Total In:
                                                                  1,468 mL
                                                                    604 mL
   PO:
             TF:
                                                                      5 mL
                                                                    112 mL
   IVF:
                                                                  1,463 mL
                                                                    342 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                    495 mL
   Urine:
                                                                  1,285 mL
                                                                    445 mL
   NG:
   Stool:
                                                                     40 mL
   Drains:
                                                                    250 mL
                                                                     50 mL
   Balance:
                                                                   -147 mL
                                                                    109 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 443 (443 - 997) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 12.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   454 K/uL
   9.0 g/dL
   135 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.3 mEq/L
   16 mg/dL
   102 mEq/L
   139 mEq/L
   28.7 %
   4.6 K/uL
        [image002.jpg]
                             [**2158-3-21**]  05:07 PM
                             [**2158-3-21**]  08:17 PM
                             [**2158-3-22**]  02:58 AM
                             [**2158-3-22**]  12:26 PM
                             [**2158-3-23**]  03:00 AM
                             [**2158-3-23**]  07:41 AM
                             [**2158-3-23**]  03:02 PM
                             [**2158-3-23**]  11:42 PM
                             [**2158-3-24**]  09:16 AM
                             [**2158-3-25**]  03:06 AM
   WBC
   16.4
   12.5
   6.3
   4.6
   Hct
   29.6
   34
   28.2
   27.5
   28.7
   Plt
   [**Telephone/Fax (3) 5067**]54
   Cr
   0.4
   0.6
   0.4
   0.5
   0.7
   0.6
   TCO2
   32
   32
   31
   30
   Glucose
   98
   80
   101
   94
   86
   108
   135
   Other labs: PT / PTT / INR:18.5/42.7/1.7, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:[**7-15**], Alk Phos / T Bili:161/0.8,
   Differential-Neuts:89.0 %, Band:3.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:3.0
   %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.0 g/dL, LDH:202 IU/L, Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   54yoF w/ h/o COPD, etoh abuse, transverse colon adenocarcinoma  s/p R
   hemi-colectomy POD # 19, c/b anastomotic leak , peritonitis and AMS,
   and now s/p  ex lap, R colectomy, R diverting illeostomy and [**Doctor Last Name 4888**]
   pouch POD # 15 , and respiratory failure.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   Resolved, likely from VAP, now adequately treated with Vanc Zosyn.
   D/c
ed Vanc as pt was cx neg x48h.
   - Continue Zosyn x10d
   #   Hypoxic respiratory failure
 Pt self extubated [**3-22**].  Now
   requiring BiPap x48h. Plan is to treat COPD with 48h high-dose steroids
   and then wean down steroids. If pt still requiring BiPap after this
   willl need tracheostomy.
   - on solumedrol for COPD, cont nebs
   - continue bipap, may need to reintubate
   - gentle diuresis today, goal negative 1L
   # Hypotension- has improved since lasix gtt stopped.
   - Bolus lasix 20mg IV today
   #  ARF
 baseline near baseline today at 0.6.
   - gentle diuresis as above
   # Leukocytosis
 resolved x24h, likely [**1-30**] resolving VAP, and
   intrabdominal collections, but no recent CT scan.
   - d/c
d Vanco, continue Zosyn
   # Hypervolemia
 goal diuresis negative 1L / 24h using lasix bolus
   # LE edema
 asymmetric, R>L . Will recheck LENIs today
   - LENIs did not get done on [**3-24**]
   # Access- PICC placed today by IV team, but needs repositiong as going
   upward in IJ. If stable will send pt to IR.
   # FEN: dobhoff in place, started TF at surgery goal of 20cc/h
   # PPx: SubQ hep [**Hospital1 **], pneumoboots, PPI
   # Full code
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-3-24**] 11:30 PM 20 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2158-3-23**] 10:10 AM
   20 Gauge - [**2158-3-23**] 10:10 AM
   Midline - [**2158-3-24**] 01:34 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined Mrs [**Last Name (STitle) 5076**], and was physically present with the
   ICU team for the key portions of the services provided. I agree with
   the note above, including the assessment and plan. I would emphasize
   and add the following points:
   Mrs [**Last Name (STitle) 5076**] has tolerated BiPAP well thus far and has had NG tube
   placed for feeding. Steroids were started for COPD flare and she
   appears to be responding slowly to diuretics. her voice is stronger and
   is keen to transition to a chair today.
   Exam notable for obese WF Tm of 98.6 BP110/72 HRof 84 RR of 14 with
   sats of 98% on BiPAP . She has good breath sounds at bases and
   resolving anasarca.
    Labs notable for WBC of 4.6 K, HCTof 28.7 , K+ 3.3, Cr 0.6, lactate of
   < 2. CXR with bibasilar atelectasis and possible Left > right
   effusions. Interstitial edema improved .
   Agree with plan to transition to chair to help improve diaphragmatic
   excursions, continue steroids at high doses for 48 hrs ( then wean) and
   attempt to take off BiPAP when sitting. tube feeds will continue per
   surgical staff recs and diuresis ( with albumin) too. I am hopeful she
   will stay off the ventilator but overall nutritional health is the
   biggest impediment to getting better with supportive Rx.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2158-3-25**] 01:26 PM ------

2158-03-26 05:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 54yoF w/ h/o COPD, etoh abuse, transverse colon
   adenocarcinoma  s/p transverse colectomy, c/b anastomotic leak ,
   peritonitis and AMS, and now s/p  ex lap, R colectomy, R diverting
   illeostomy and [**Doctor Last Name 4888**] pouch, and with persistent respiratory failure,
   difficulty extubating and dependence on BiPAP post self-extubation.
   24 Hour Events:
   - surgery goal to reeval sunday evening after 48 hrs of steroid re
   tube/trach or improving. Want to optimize with diuresis as well.
   - today on bipap except 2 short bursts of 2h and 45min on facemask.
   Becomes confused and agitated, wanting to take off masks (likely
   hypoxic/hypercarbic, ABGs not checked)
   - starting to have nasal skin breakdown
   - attempting diuresis with lasix boluses
   - dobhoff did not advance with reglan, likely because bipap mask
   holding it in place. Continuing reglan and surgery will try to manually
   advance it on morning rounds tomorrow.
   - LENI's not done, reordered for tomorrow
   - Did not sleep overnight, no response to haldol or trazadone,
   delirius, trying to crawl out of bed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2158-3-24**] 07:40 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-25**] 10:26 PM
   Other ICU medications:
   Famotidine (Pepcid) - [**2158-3-25**] 07:53 PM
   Heparin Sodium (Prophylaxis) - [**2158-3-25**] 07:53 PM
   Furosemide (Lasix) - [**2158-3-25**] 10:04 PM
   Flowsheet Data as of  [**2158-3-26**] 05:26 AM
   Vital signs
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 91 (83 - 105) bpm
   BP: 120/83(91) {105/64(76) - 143/93(115)} mmHg
   RR: 20 (17 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
                Total In:
                                                                  1,943 mL
                                                                    186 mL
   PO:
                                                                    200 mL
                TF:
                                                                    472 mL
                                                                    108 mL
   IVF:
                                                                    721 mL
                                                                     27 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  1,875 mL
                                                                    720 mL
   Urine:
                                                                  1,535 mL
                                                                    660 mL
   Drains:
                                                                    190 mL
                                                                     60 mL
   Balance:
                                                                     68 mL
                                                                   -534 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 855 (443 - 875) mL
   PS : 10 cmH2O
   PEEP: 8 cmH2O
   RR (Spontaneous): 27
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: 7.44/43/81/27/4
   Ve: 13.9 L/min
   PaO2 / FiO2: 162
   Physical Examination
   GEN: BIPAP in place, pt confused
   HEENT: dry MM
   CV: RRR, no murmurs
   PULM: CTA Bilaterally
   ABD: staples in midline incision, ostomy draining dark green material,
   biliary drain in place. Minimally distended and tender.
   EXT: Edema
   Labs / Radiology
   557 K/uL
   9.2 g/dL
   149 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.6 mEq/L
   19 mg/dL
   103 mEq/L
   140 mEq/L
   28.7 %
   6.2 K/uL
        [image002.jpg]
                             [**2158-3-22**]  12:26 PM
                             [**2158-3-23**]  03:00 AM
                             [**2158-3-23**]  07:41 AM
                             [**2158-3-23**]  03:02 PM
                             [**2158-3-23**]  11:42 PM
                             [**2158-3-24**]  09:16 AM
                             [**2158-3-25**]  03:06 AM
                             [**2158-3-25**]  08:45 PM
                             [**2158-3-26**]  01:33 AM
                             [**2158-3-26**]  03:00 AM
   WBC
   12.5
   6.3
   4.6
   6.2
   Hct
   34
   28.2
   27.5
   28.7
   28.7
   Plt
   488
   450
   454
   557
   Cr
   0.4
   0.5
   0.7
   0.6
   0.6
   0.7
   TCO2
   32
   31
   30
   30
   Glucose
   101
   94
   86
   108
   135
   154
   149
   Other labs: PT / PTT / INR:18.5/42.7/1.7, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:[**7-15**], Alk Phos / T Bili:161/0.8,
   Differential-Neuts:89.0 %, Band:3.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:3.0
   %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.0 g/dL, LDH:202 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   54yoF w/ h/o COPD, etoh abuse, transverse colon adenocarcinoma  s/p
   transverse colectomy, c/b anastomotic leak , peritonitis and AMS, and
   now s/p  ex lap, R colectomy, R diverting illeostomy and [**Doctor Last Name 4888**] pouch,
   and with intermittent sepsis, persistent respiratory failure,
   difficulty extubating and dependence on BiPAP post self-extubation.
   #   Hypoxic respiratory failure
 Pt self extubated [**3-22**].  Now
   requiring BiPap x72h with only short tolerate on facemask/NC. Plan is
   to treat COPD with 48h high-dose steroids and then reevaluate for signs
   of improvement vs reintubation and trach. Has not slept since
   extubation (4 days) and becoming delirius. ABG normal without signs of
   hypoxia or hypercarbia. Did not respond to haldol or trazadone,
   hesitating to give meds that decrease resp drive.
   - on solumedrol for COPD with improved wheezing-> will decrease dose as
   likely having worsening delirium from steroids
   - continue bipap, with maximal wean to mask today given skin
   - gentle diuresis today, goal even to slightly negative
   - appears strong enough to wean but problem is mental status/delirium
   - CXR with increased fluid/atalectasis. Will consider pigtail placement
   tomorrow
   # Delirium: likely combination of lack of sleep, steroids, long
   hospitalization. ABG normal while on BiPAP so no hypercarbia or hypoxia
   contribution.
   - aggressive sedation to induce sleep with ativan, haldol. Monitor
   respiratory status carefully
   # Hypotension- has improved since lasix gtt stopped.
   - Bolus lasix prn diuresis.
   # Hypervolemia
 Unclear how much overloaded she remains. Renal
   function still
normal
 with diuresis, but double creatinine above
   recent 0.3 and simultaneously close to pt
s baseline prior to
   hospitalization. Difficult to assess but  clinically not significantly
   overloaded.
   - Was even yest with Lasix 20mg x 2 and 40mg x 1.  Given incensible
   losses, an improvement. This morning negative 500.
   - Goal even to slightly negative. Putting out well to 40mg.
   #  ARF
 baseline near baseline today at 0.7.
   - monitor Cr and lytes closely with continued diuresis.
   # Leukocytosis
 Resolved x 3d, likely [**1-30**] resolving VAP, and
   intrabdominal collections, but no recent CT scan. Afebrile.
   - Continue Zosyn x10d
   # LE edema
 asymmetric, R>L . LENI
s reordered.
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2158-3-25**] 11:49 PM 20 mL/hour
   Lines: 22 Gauge - [**2158-3-23**] 10:10 AM
              20 Gauge - [**2158-3-23**] 10:10 AM
              Midline - [**2158-3-24**] 01:34 PM
   Prophylaxis:  DVT: SubQ hep [**Hospital1 **], pneumoboots
          Stress ulcer: PPI
   Code status: Full code
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined Mrs [**Last Name (STitle) 5076**], and was physically present with the
   ICU team for the key portions of the services provided. I agree with
   the note above, including the assessment and plan. I would emphasize
   and add the following points:
   Mrs [**Last Name (STitle) 5076**] has tolerated BiPAP for nearly 2.5 hrs but had worsening
   respiratory distress last night ( ? CHF vs aspiration) with agitation (
   needed haldol). She is now restrained.
   Exam notable for obese WF Tm of 98.6 BP110/72 HRof 84 RR of 14 with
   sats of 98% on BiPAP. She has good breath sounds anteriorly and
   resolving anasarca. Mucous membranes are dry. She is thristy and TBB is
   negative by 0.5 L with lasix/ albumin.
    Labs notable for WBC of 6.2 K, HCTof 28.7 , K+ 3.6, Cr 0.7, lactate
   of 1.2 and ABG of 7.44/43 and Po2 of 81 on 50% FiO2 and BiPAP. CXR with
   bibasilar atelectasis, worsening effusions R>L and small lung volumes.
   Agree with plan to taper steroids ( ? adding to agitation), continue
   diuresis and NIPPV with low dose ativan ( to help with sleep) and
   nutritional support through NG tube.  Hopefully as agitation and
   hypoxemia improves, she will be able to tolerate some time off BiPAP.
   If not, then will need consideration of ETT/ Trach next week.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2158-3-26**] 01:08 PM ------

2158-03-27 10:36:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress/failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues to use BiPAP intermittently.  Respiratory failaure attributed
   to COPD and volume overload.
   Remains somnulant.
   Passing dark blood via rectum (x3 this am).
   History obtained from Medical records
   Patient unable to provide history: Sedated, mechanical ventilation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-27**] 05:58 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2158-3-27**] 12:11 AM
   Lorazepam (Ativan) - [**2158-3-27**] 01:14 AM
   Famotidine (Pepcid) - [**2158-3-27**] 07:38 AM
   Heparin Sodium (Prophylaxis) - [**2158-3-27**] 07:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-3-27**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.9
   HR: 91 (84 - 111) bpm
   BP: 124/83(93) {108/71(81) - 138/93(101)} mmHg
   RR: 27 (18 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
             Total In:
                                                                  1,804 mL
                                                                    818 mL
   PO:
             TF:
                                                                    810 mL
                                                                    507 mL
   IVF:
                                                                    534 mL
                                                                    251 mL
   Blood products:
   Total out:
                                                                  2,132 mL
                                                                    860 mL
   Urine:
                                                                  1,822 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
                                                                    160 mL
                                                                    100 mL
   Balance:
                                                                   -328 mL
                                                                    -42 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 240 (240 - 800) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 94%
   ABG: ///23/
   Ve: 4 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic, Frail
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   Tender: mild, Obese, RLQ drain in place; surgical wound midline with
   open wound and packing
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.8 g/dL
   542 K/uL
   370 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.3 mEq/L
   23 mg/dL
   90 mEq/L
   138 mEq/L
   24.9 %
   7.8 K/uL
        [image002.jpg]
                             [**2158-3-23**]  07:41 AM
                             [**2158-3-23**]  03:02 PM
                             [**2158-3-23**]  11:42 PM
                             [**2158-3-24**]  09:16 AM
                             [**2158-3-25**]  03:06 AM
                             [**2158-3-25**]  08:45 PM
                             [**2158-3-26**]  01:33 AM
                             [**2158-3-26**]  03:00 AM
                             [**2158-3-26**]  10:33 PM
                             [**2158-3-27**]  04:08 AM
   WBC
   6.3
   4.6
   6.2
   7.8
   Hct
   27.5
   28.7
   28.7
   24.9
   Plt
   [**Telephone/Fax (3) 5117**]42
   Cr
   0.5
   0.7
   0.6
   0.6
   0.7
   0.7
   0.7
   TCO2
   31
   30
   30
   Glucose
   86
   108
   135
   154
   149
   370
   Other labs: PT / PTT / INR:18.5/42.7/1.7, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:[**7-15**], Alk Phos / T Bili:161/0.8,
   Differential-Neuts:89.0 %, Band:3.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:3.0
   %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.0 g/dL, LDH:202 IU/L, Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   Acute respiratory failure, persistent, post-op.
   ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**]) --
   multifactorial; predominately atalectasis, possible infiltrates
   (bilateral).  Pleural effusions mild, unlikely contributing to
   respiratory failure.  Underlying COPD.  Continued dependence at BiPAP,
   now >4 days on BiPAP with evidence for skin breakdown on nose bridge.
   Would maintain low threshold for reintubation, and move to trach.
   DELERIUM -- medications ( ativan), and toxic-metabolic.
   ANXIETY -- benzodiazepines.
   TACHYCARDIA -- improved.
   HYPOKALEMIA -- replete to >4.0
   RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ALCOHOL ABUSE -- out of window for withdrawal risk.
   ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING) --
   persistent bleeding via [**Doctor Last Name 4888**] pouch --> expected post-op progess?
   Surgery to f/u.
   PERITONITIS (NON-SBP) -- wound infection, possible acalculous
   cholecystitis --> drain in place.
   CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER) -- s/p surgical
   resection.
   PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 optimize meds.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-3-27**] 06:33 AM 50 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2158-3-23**] 10:10 AM
   Midline - [**2158-3-24**] 01:34 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2158-03-27 10:42:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Bronchoscopy performed to assess airway patency -- no significant
   improvement noted.
   History obtained from Medical records
   Patient unable to provide history: Sedated, mechanically ventillated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-27**] 05:58 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2158-3-27**] 12:11 AM
   Lorazepam (Ativan) - [**2158-3-27**] 01:14 AM
   Famotidine (Pepcid) - [**2158-3-27**] 07:38 AM
   Heparin Sodium (Prophylaxis) - [**2158-3-27**] 07:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-3-27**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.9
   HR: 91 (84 - 111) bpm
   BP: 124/83(93) {108/71(81) - 138/93(101)} mmHg
   RR: 27 (18 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
             Total In:
                                                                  1,804 mL
                                                                    849 mL
   PO:
             TF:
                                                                    810 mL
                                                                    533 mL
   IVF:
                                                                    534 mL
                                                                    257 mL
   Blood products:
   Total out:
                                                                  2,132 mL
                                                                    860 mL
   Urine:
                                                                  1,822 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
                                                                    160 mL
                                                                    100 mL
   Balance:
                                                                   -328 mL
                                                                    -11 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 240 (240 - 800) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 94%
   ABG: ///23/
   Ve: 4 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.8 g/dL
   542 K/uL
   370 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.3 mEq/L
   23 mg/dL
   90 mEq/L
   138 mEq/L
   24.9 %
   7.8 K/uL
        [image002.jpg]
                             [**2158-3-23**]  07:41 AM
                             [**2158-3-23**]  03:02 PM
                             [**2158-3-23**]  11:42 PM
                             [**2158-3-24**]  09:16 AM
                             [**2158-3-25**]  03:06 AM
                             [**2158-3-25**]  08:45 PM
                             [**2158-3-26**]  01:33 AM
                             [**2158-3-26**]  03:00 AM
                             [**2158-3-26**]  10:33 PM
                             [**2158-3-27**]  04:08 AM
   WBC
   6.3
   4.6
   6.2
   7.8
   Hct
   27.5
   28.7
   28.7
   24.9
   Plt
   [**Telephone/Fax (3) 5117**]42
   Cr
   0.5
   0.7
   0.6
   0.6
   0.7
   0.7
   0.7
   TCO2
   31
   30
   30
   Glucose
   86
   108
   135
   154
   149
   370
   Other labs: PT / PTT / INR:18.5/42.7/1.7, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:[**7-15**], Alk Phos / T Bili:161/0.8,
   Differential-Neuts:89.0 %, Band:3.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:3.0
   %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.0 g/dL, LDH:202 IU/L, Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   TACHYCARDIA, OTHER
   ALTERED MENTAL STATUS (NOT DELIRIUM)
   ELECTROLYTE & FLUID DISORDER, OTHER
   SEPSIS WITHOUT ORGAN DYSFUNCTION
   RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ALCOHOL ABUSE
   ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
   PERITONITIS (NON-SBP)
   RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-3-27**] 06:33 AM 50 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2158-3-23**] 10:10 AM
   Midline - [**2158-3-24**] 01:34 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2158-03-28 11:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Contrinues to requiire BiPAP overnight, near continuous.
   Up in chair this AM, off BiPAP, with face mask.
   Contines to exhibit overall genralized weakness.
   More awake this AM, but appears fatigued.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-28**] 05:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2158-3-28**] 07:45 AM
   Heparin Sodium (Prophylaxis) - [**2158-3-28**] 08:00 AM
   Furosemide (Lasix) - [**2158-3-28**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Flowsheet Data as of  [**2158-3-28**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36
C (96.8
   HR: 117 (87 - 117) bpm
   BP: 159/114(126) {126/77(89) - 159/114(126)} mmHg
   RR: 33 (15 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
             Total In:
                                                                  1,853 mL
                                                                    764 mL
   PO:
             TF:
                                                                  1,203 mL
                                                                    537 mL
   IVF:
                                                                    540 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  2,190 mL
                                                                  1,660 mL
   Urine:
                                                                  1,650 mL
                                                                  1,370 mL
   NG:
   Stool:
   Drains:
                                                                    240 mL
                                                                    190 mL
   Balance:
                                                                   -337 mL
                                                                   -896 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 801 (525 - 801) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.43/47/99.[**Numeric Identifier 433**]/28/5
   Ve: 7.1 L/min
   PaO2 / FiO2: 198
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Surgical wound midline, open component
   with packing
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.1 g/dL
   600 K/uL
   155 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.2 mEq/L
   27 mg/dL
   109 mEq/L
   145 mEq/L
   30.0 %
   10.6 K/uL
        [image002.jpg]
                             [**2158-3-24**]  09:16 AM
                             [**2158-3-25**]  03:06 AM
                             [**2158-3-25**]  08:45 PM
                             [**2158-3-26**]  01:33 AM
                             [**2158-3-26**]  03:00 AM
                             [**2158-3-26**]  10:33 PM
                             [**2158-3-27**]  04:08 AM
                             [**2158-3-27**]  10:52 AM
                             [**2158-3-27**]  12:38 PM
                             [**2158-3-28**]  03:51 AM
   WBC
   6.3
   4.6
   6.2
   7.8
   10.6
   Hct
   27.5
   28.7
   28.7
   24.9
   29.9
   30.0
   Plt
   [**Telephone/Fax (3) 5117**]42
   600
   Cr
   0.7
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   0.5
   TCO2
   30
   32
   Glucose
   108
   135
   154
   149
   370
   151
   155
   Other labs: PT / PTT / INR:18.5/42.7/1.7, CK / CKMB /
   Troponin-T:30/2/<0.01, ALT / AST:14/26, Alk Phos / T Bili:222/1.0,
   Differential-Neuts:89.0 %, Band:3.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:3.0
   %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.0 g/dL, LDH:388 IU/L, Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   Acute respiratory failure, persistent, post-op.
   RESPIRATORY FAILURE -- multifactorial; predominately atalectasis,
   possible infiltrates (bilateral).  Pleural effusions mild, unlikely
   contributing to respiratory failure.  Underlying COPD.  If continued
   dependence at BiPAP, now >4 days on BiPAP with evidence for skin
   breakdown on nose bridge.  Would maintain low threshold for
   reintubation, and move to trach.
   DELERIUM -- medications ( ativan), and toxic-metabolic.
   ANXIETY -- judicious use of benzodiazepines prn.
   TACHYCARDIA -- improved.
   HYPOKALEMIA -- replete to >4.0
   RENAL FAILURE, ACUTE -- improved
   ALCOHOL ABUSE -- out of window for withdrawal risk.
   ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING) --
   persistent bleeding via [**Doctor Last Name 4888**] pouch --> expected post-op progess?
   Surgery to f/u.
   PERITONITIS  -- wound infection, possible acalculous cholecystitis -->
   drain in place.
   CANCER, COLORECTAL (COLON CANCER) -- s/p surgical resection.
   PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 optimize meds.
   PHYSICAL THERAPY consult
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-3-28**] 06:03 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2158-3-24**] 01:34 PM
   18 Gauge - [**2158-3-27**] 02:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: Discussed medical progress with Dr. [**Last Name (STitle) **]
   (Surgery)
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2158-03-29 11:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   More awake today.  Exhibiting some confusion.
   Remains dyspneic.  Continues to require BiPAP overnight
   Up in chair this AM.
   Feeding tube removed and replaced.
   Experienced occasional tachycardia (narrow complex).
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-28**] 10:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2158-3-29**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2158-3-29**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-3-29**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.8
C (96.5
   HR: 95 (88 - 116) bpm
   BP: 127/80(91) {123/77(88) - 166/129(119)} mmHg
   RR: 25 (18 - 44) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
             Total In:
                                                                  1,290 mL
                                                                    435 mL
   PO:
             TF:
                                                                    813 mL
   IVF:
                                                                    478 mL
                                                                    435 mL
   Blood products:
   Total out:
                                                                  2,941 mL
                                                                  2,120 mL
   Urine:
                                                                  2,366 mL
                                                                  2,120 mL
   NG:
   Stool:
   Drains:
                                                                    350 mL
   Balance:
                                                                 -1,651 mL
                                                                 -1,685 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 735 (403 - 808) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ///29/
   Ve: 9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: surgical incision, No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): place, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.8 g/dL
   675 K/uL
   139 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.3 mEq/L
   29 mg/dL
   112 mEq/L
   147 mEq/L
   30.3 %
   15.1 K/uL
        [image002.jpg]
                             [**2158-3-25**]  03:06 AM
                             [**2158-3-25**]  08:45 PM
                             [**2158-3-26**]  01:33 AM
                             [**2158-3-26**]  03:00 AM
                             [**2158-3-26**]  10:33 PM
                             [**2158-3-27**]  04:08 AM
                             [**2158-3-27**]  10:52 AM
                             [**2158-3-27**]  12:38 PM
                             [**2158-3-28**]  03:51 AM
                             [**2158-3-29**]  05:12 AM
   WBC
   4.6
   6.2
   7.8
   10.6
   15.1
   Hct
   28.7
   28.7
   24.9
   29.9
   30.0
   30.3
   Plt
   454
   557
   542
   600
   675
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   0.5
   0.6
   TCO2
   30
   32
   Glucose
   135
   154
   149
   370
   151
   155
   139
   Other labs: PT / PTT / INR:15.0/27.8/1.3, CK / CKMB /
   Troponin-T:[**8-30**]/<0.01, ALT / AST:26/35, Alk Phos / T Bili:238/1.3,
   Differential-Neuts:76.7 %, Band:3.0 %, Lymph:18.5 %, Mono:4.3 %,
   Eos:0.2 %, D-dimer:1569 ng/mL, Fibrinogen:620 mg/dL, Lactic Acid:1.5
   mmol/L, Albumin:3.4 g/dL, LDH:434 IU/L, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
   Acute respiratory failure, persistent, post-op.
   RESPIRATORY FAILURE -- self-extubated [**2158-3-22**].  Required BiPAP, near
   continuous.  multifactorial; predominately atalectasis, possible
   infiltrates (bilateral).  Pleural effusions mild, unlikely contributing
   to respiratory failure.  Underlying COPD.  Making progress.  Would
   maintain low threshold for reintubation, and move to trach.
   DELERIUM -- medications ( ativan), and toxic-metabolic.  Improving.
   ELEVATED WBC -- monitor for evolving infection.  Pan-culture (blood,
   urine, gallbladder tube, stool) and check LFT, amylase, lipase.  D/C
   antibiotics as planned.  Monitor off antibiotics, unless focal
   ABNORMAL ECG -- inverted T-waves in lateral leads.  Concern for
   ischemia.  Continue to check cardiac enzymes, repeat echo --> ?new wall
   motion abnormalities.
   ANXIETY -- judicious use of benzodiazepines prn.
   TACHYCARDIA -- improved.  Monitor.
   HYPOKALEMIA -- replete to >4.0
   RENAL FAILURE, ACUTE -- improved.
   NUTRITIONAL SUPPORT -- TF
   ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS  -- persistent bleeding via
   [**Doctor Last Name 4888**] pouch --> expected post-op progess?  Surgery to f/u.
   PERITONITIS  -- wound infection, possible acalculous cholecystitis -->
   drain in place.
   CANCER, COLORECTAL (COLON CANCER) -- s/p surgical resection.
   PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 optimize meds.
   h/o ALCOHOL ABUSE -- out of window for withdrawal risk.
   PHYSICAL THERAPY consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2158-3-24**] 01:34 PM
   18 Gauge - [**2158-3-27**] 02:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2158-03-30 13:04:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   HPI: 54 y/o with adenoca, transverse colectomy with Hartmans pouch c/b
   anastonotic bleed and abdominal fluid collection and HAP completing ABX
   on [**3-30**] with persistent respiratory failure due to significant
   atelectasis, weakness, COPD and mild volume overload.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2158-3-29**] 09:00 AM
   Patient found to have C. diff. Putting out moderate amounts of stool
   from ileostomy. Was off BIPAP all night yesterday. Patient was seen by
   Plastics yesterday.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-28**] 10:00 PM
   Metronidazole - [**2158-3-30**] 11:33 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2158-3-30**] 07:04 AM
   Heparin Sodium (Prophylaxis) - [**2158-3-30**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-30**] 12:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.8
   HR: 96 (90 - 110) bpm
   BP: 121/75(87) {111/66(76) - 141/95(105)} mmHg
   RR: 30 (23 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
             Total In:
                                                                    653 mL
                                                                  1,425 mL
   PO:
             TF:
                                                                    128 mL
                                                                    398 mL
   IVF:
                                                                    525 mL
                                                                    297 mL
   Blood products:
   Total out:
                                                                  3,060 mL
                                                                  1,345 mL
   Urine:
                                                                  2,660 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
                                                                    300 mL
                                                                    100 mL
   Balance:
                                                                 -2,407 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Heent: No JVD
   Cardiac: Normal s1 and S2. No m,r,g.
   Lungs: decreased breath sounds at bases.
   Abdomen: benign
   Ext: no edema
   Neuro: Responds to all commands appropraitley.
   Pulses: 2+ bilaterally.
   Labs / Radiology
   10.0 g/dL
   663 K/uL
   161 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.3 mEq/L
   26 mg/dL
   112 mEq/L
   148 mEq/L
   33.8 %
   12.5 K/uL
        [image002.jpg]
                             [**2158-3-26**]  10:33 PM
                             [**2158-3-27**]  04:08 AM
                             [**2158-3-27**]  10:52 AM
                             [**2158-3-27**]  12:38 PM
                             [**2158-3-28**]  03:51 AM
                             [**2158-3-29**]  05:12 AM
                             [**2158-3-29**]  09:46 AM
                             [**2158-3-29**]  01:11 PM
                             [**2158-3-29**]  08:02 PM
                             [**2158-3-30**]  03:09 AM
   WBC
   7.8
   10.6
   15.1
   14.6
   12.5
   Hct
   24.9
   29.9
   30.0
   30.3
   30.9
   33.8
   Plt
   542
   600
   675
   629
   663
   Cr
   0.7
   0.7
   0.7
   0.5
   0.6
   0.5
   0.5
   TropT
   0.01
   TCO2
   32
   Glucose
   370
   151
   155
   139
   125
   161
   Other labs: PT / PTT / INR:15.0/27.8/1.3, CK / CKMB /
   Troponin-T:13/2/0.01, ALT / AST:26/35, Alk Phos / T Bili:238/1.3,
   Amylase / Lipase:73/127, Differential-Neuts:87.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:5.0 %, Eos:0.0 %, D-dimer:1569 ng/mL, Fibrinogen:620
   mg/dL, Lactic Acid:1.5 mmol/L, Albumin:3.4 g/dL, LDH:434 IU/L, Ca++:9.2
   mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Acute respiratory failure, persistent, post-op.
   RESPIRATORY FAILURE -- self-extubated [**2158-3-22**], required BiPAP, near
   continuous.  Multifactorial etiology for resp failure,  predominately
   atalectasis, possible infiltrates (bilateral).  Pleural effusions mild,
   unlikely contributing to respiratory failure.  Underlying COPD.  Making
   slow progress.  Would maintain low threshold for reintubation, and move
   to trach if requires reintubation.
   DELERIUM -- medications ( ativan), and toxic-metabolic.  Improving.
   ELEVATED WBC -- monitor for evolving infection.  Evidence for C. Diff
   Flagyl & Vanco
   ABNORMAL ECG -- inverted T-waves in lateral leads.  Concern for
   ischemia.  Continue to check cardiac enzymes, repeat echo --> ?new wall
   motion abnormalities.  No evidence for new MI.  Monitor.
   ANXIETY -- judicious use of benzodiazepines prn.
   TACHYCARDIA -- improved.  Monitor.
   HYPOKALEMIA -- replete to >4.0
   RENAL FAILURE, ACUTE -- improved.  Tolerating net diuresis.
   NUTRITIONAL SUPPORT -- TF
   ANEMIA SECONDARY TO BLOOD LOSS  -- persistent bleeding via [**Doctor Last Name 4888**]
   pouch --> expected post-op progess?  Surgery to f/u.
   PERITONITIS  -- wound infection, possible acalculous cholecystitis -->
   drain in place.
   CANCER, COLORECTAL (COLON CANCER) -- s/p surgical resection.
   PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 optimize meds.
   PHYSICAL THERAPY consult
   ICU Care
   Nutrition: Tube feedings
   Nutren Pulmonary (Full) - [**2158-3-30**] 11:35 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2158-3-24**] 01:34 PM
   18 Gauge - [**2158-3-27**] 02:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Patient
   Code status: Full code
   Disposition :MICU
   Total time spent: 30 mminutes

2158-03-31 12:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains off BiPAP for past 36 hours.
   More alert today.
   Some nausea today.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-28**] 10:00 PM
   Metronidazole - [**2158-3-31**] 04:00 AM
   Vancomycin - [**2158-3-31**] 08:23 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2158-3-31**] 05:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-3-31**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-3-31**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.6
C (97.8
   HR: 93 (86 - 101) bpm
   BP: 109/61(72) {106/60(71) - 125/78(89)} mmHg
   RR: 25 (22 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
             Total In:
                                                                  2,858 mL
                                                                  1,646 mL
   PO:
             TF:
                                                                    974 mL
                                                                    600 mL
   IVF:
                                                                    480 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                  2,860 mL
                                                                  2,110 mL
   Urine:
                                                                  2,485 mL
                                                                  1,910 mL
   NG:
   Stool:
   Drains:
                                                                    300 mL
                                                                    150 mL
   Balance:
                                                                     -2 mL
                                                                   -464 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese, Midline surgical incision
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   480 K/uL
   139 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.6 mEq/L
   23 mg/dL
   112 mEq/L
   146 mEq/L
   30.3 %
   14.2 K/uL
        [image002.jpg]
                             [**2158-3-27**]  10:52 AM
                             [**2158-3-27**]  12:38 PM
                             [**2158-3-28**]  03:51 AM
                             [**2158-3-29**]  05:12 AM
                             [**2158-3-29**]  09:46 AM
                             [**2158-3-29**]  01:11 PM
                             [**2158-3-29**]  08:02 PM
                             [**2158-3-30**]  03:09 AM
                             [**2158-3-31**]  01:54 AM
                             [**2158-3-31**]  06:39 AM
   WBC
   10.6
   15.1
   14.6
   12.5
   14.2
   Hct
   29.9
   30.0
   30.3
   30.9
   33.8
   30.3
   Plt
   [**Telephone/Fax (3) 5177**]63
   480
   Cr
   0.7
   0.5
   0.6
   0.5
   0.5
   0.5
   0.4
   TropT
   0.01
   TCO2
   32
   Glucose
   151
   155
   139
   125
   161
   153
   139
   Other labs: PT / PTT / INR:15.0/27.8/1.3, CK / CKMB /
   Troponin-T:13/2/0.01, ALT / AST:26/35, Alk Phos / T Bili:238/1.3,
   Amylase / Lipase:73/127, Differential-Neuts:82.2 %, Band:0.0 %,
   Lymph:10.6 %, Mono:4.2 %, Eos:3.0 %, D-dimer:1569 ng/mL, Fibrinogen:620
   mg/dL, Lactic Acid:1.5 mmol/L, Albumin:3.4 g/dL, LDH:434 IU/L, Ca++:8.5
   mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Acute respiratory failure, persistent, post-op.
   RESPIRATORY FAILURE -- self-extubated [**2158-3-22**], slow progress, required
   near continuus BiPAP.  Multifactorial etiology for resp failure,
   predominately atalectasis, possible infiltrates (bilateral), leural
   effusions.  Underlying COPD.  COntinue to wean FiO2.
   DELERIUM -- medications ( ativan), and toxic-metabolic.  Improving.
   C. diff enteritis -- monitor for evolving infection.  Evidence for C.
   Diff -->  Flagyl & Vanco --> continue.
   NAUSEA -- Abd exam unchanged and benign.  Likley multifactorial,
   including medications, TF.
   HYPERNATREMIA -- replete free H20 via infusion.  Monitor Na+
   ABNORMAL ECG -- inverted T-waves in lateral leads.  Concern for
   ischemia.  Continue to check cardiac enzymes, repeat echo --> ?new wall
   motion abnormalities.  No evidence for new MI.  Monitor.
   ANXIETY -- judicious use of benzodiazepines prn.
   TACHYCARDIA -- resolved.  Monitor.
   HYPOKALEMIA -- replete to >4.0
   RENAL FAILURE, ACUTE -- improved.  Tolerating net diuresis.
   NUTRITIONAL SUPPORT -- TF
   ANEMIA SECONDARY TO BLOOD LOSS  -- persistent bleeding via [**Doctor Last Name 4888**]
   pouch --> expected post-op progess?  Surgery to f/u.
   PERITONITIS  -- wound infection, possible acalculous cholecystitis -->
   drain in place.
   CANCER, COLORECTAL (COLON CANCER) -- s/p surgical resection.
   PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 optimize meds.
   PHYSICAL THERAPY consult
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-3-31**] 06:46 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2158-3-24**] 01:34 PM
   18 Gauge - [**2158-3-27**] 02:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2158-04-01 11:20:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Experienced episode of A-fib with RVR --> responded to lopressor iv
   bolus x 2
   Experiencing nausea.
   Continues with bloody discharge from rectum.
   Up in chair today.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2158-4-1**] 04:10 AM
   Vancomycin - [**2158-4-1**] 08:07 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2158-3-31**] 04:55 PM
   Heparin Sodium (Prophylaxis) - [**2158-4-1**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**3-1**] Mild
   Pain location: abdominal
   Flowsheet Data as of  [**2158-4-1**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 84 (72 - 132) bpm
   BP: 101/57(72) {92/55(64) - 119/72(83)} mmHg
   RR: 22 (17 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
             Total In:
                                                                  2,859 mL
                                                                    705 mL
   PO:
                                                                    150 mL
             TF:
                                                                    714 mL
   IVF:
                                                                    545 mL
                                                                    205 mL
   Blood products:
   Total out:
                                                                  2,810 mL
                                                                    805 mL
   Urine:
                                                                  2,410 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
                                                                    350 mL
                                                                    200 mL
   Balance:
                                                                     49 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   398 K/uL
   95 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.3 mEq/L
   18 mg/dL
   115 mEq/L
   146 mEq/L
   27.3 %
   12.0 K/uL
        [image002.jpg]
                             [**2158-3-27**]  12:38 PM
                             [**2158-3-28**]  03:51 AM
                             [**2158-3-29**]  05:12 AM
                             [**2158-3-29**]  09:46 AM
                             [**2158-3-29**]  01:11 PM
                             [**2158-3-29**]  08:02 PM
                             [**2158-3-30**]  03:09 AM
                             [**2158-3-31**]  01:54 AM
                             [**2158-3-31**]  06:39 AM
                             [**2158-4-1**]  05:21 AM
   WBC
   10.6
   15.1
   14.6
   12.5
   14.2
   12.0
   Hct
   29.9
   30.0
   30.3
   30.9
   33.8
   30.3
   27.3
   Plt
   [**Telephone/Fax (3) 5177**]63
   480
   398
   Cr
   0.7
   0.5
   0.6
   0.5
   0.5
   0.5
   0.4
   0.4
   TropT
   0.01
   Glucose
   151
   155
   139
   125
   161
   153
   139
   95
   Other labs: PT / PTT / INR:15.0/27.8/1.3, CK / CKMB /
   Troponin-T:13/2/0.01, ALT / AST:26/35, Alk Phos / T Bili:238/1.3,
   Amylase / Lipase:73/127, Differential-Neuts:82.2 %, Band:0.0 %,
   Lymph:10.6 %, Mono:4.2 %, Eos:3.0 %, D-dimer:1569 ng/mL, Fibrinogen:620
   mg/dL, Lactic Acid:1.5 mmol/L, Albumin:3.4 g/dL, LDH:434 IU/L, Ca++:7.6
   mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Acute respiratory failure, persistent, post-op.
   RESPIRATORY FAILURE -- self-extubated [**2158-3-22**], slow progress, required
   near continuus BiPAP.  Multifactorial etiology for resp failure,
   predominately atalectasis, possible infiltrates (bilateral), leural
   effusions.  Underlying COPD.  COntinue to wean FiO2.
   C. diff enteritis -- monitor for evolving infection.  Evidence for C.
   Diff -->  Flagyl & Vanco --> continue.
   NAUSEA -- Abd exam unchanged and benign.  Likley multifactorial,
   including medications, hold TF.
   HYPERNATREMIA -- resolved with repleted free H20 via infusion.  Monitor
   Na+
   ABNORMAL ECG -- inverted T-waves in lateral leads.  Monitor with
   clinical indications.
   ANXIETY -- judicious use of benzodiazepines prn.
   TACHYCARDIA -- resolved.  Monitor.
   HYPOKALEMIA -- replete to >4.0
   RENAL FAILURE, ACUTE -- improved.  Tolerating net diuresis.
   NUTRITIONAL SUPPORT -- TF
   ANEMIA SECONDARY TO BLOOD LOSS  -- persistent bleeding via [**Doctor Last Name 4888**]
   pouch --> expected post-op progess?  Surgery to f/u.
   PERITONITIS  -- wound infection, possible acalculous cholecystitis -->
   drain in place.
   CANCER, COLORECTAL (COLON CANCER) -- s/p surgical resection.
   PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 optimize meds.
   PHYSICAL THERAPY consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2158-3-24**] 01:34 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2158-04-02 12:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains on supplimental O2, now on nasal cannula
   Much time in chair.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2158-4-2**] 04:00 AM
   Vancomycin - [**2158-4-2**] 08:13 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-4-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**12-30**] Minimal
   Pain location: Abd incision
   Flowsheet Data as of  [**2158-4-2**] 12:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 92 (80 - 95) bpm
   BP: 114/66(77) {105/58(70) - 129/72(82)} mmHg
   RR: 26 (22 - 36) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
             Total In:
                                                                  2,009 mL
                                                                    402 mL
   PO:
             TF:
                                                                    239 mL
                                                                    241 mL
   IVF:
                                                                    470 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    655 mL
   Urine:
                                                                  1,000 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
                                                                    250 mL
   Balance:
                                                                    509 mL
                                                                   -253 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: surgical incision, No(t) Obese, RUQ ostomy
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): place, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.8 g/dL
   415 K/uL
   111 mg/dL
   0.3 mg/dL
   23 mEq/L
   3.5 mEq/L
   16 mg/dL
   113 mEq/L
   145 mEq/L
   34.3 %
   16.0 K/uL
        [image002.jpg]
                             [**2158-3-29**]  09:46 AM
                             [**2158-3-29**]  01:11 PM
                             [**2158-3-29**]  08:02 PM
                             [**2158-3-30**]  03:09 AM
                             [**2158-3-31**]  01:54 AM
                             [**2158-3-31**]  06:39 AM
                             [**2158-4-1**]  05:21 AM
                             [**2158-4-1**]  02:06 PM
                             [**2158-4-2**]  03:43 AM
                             [**2158-4-2**]  08:00 AM
   WBC
   14.6
   12.5
   14.2
   12.0
   16.0
   Hct
   30.9
   33.8
   30.3
   27.3
   31.0
   34.3
   Plt
   629
   663
   480
   398
   415
   Cr
   0.5
   0.5
   0.5
   0.4
   0.4
   0.4
   0.3
   TropT
   0.01
   Glucose
   125
   161
   153
   139
   95
   100
   111
   Other labs: PT / PTT / INR:15.0/27.8/1.3, CK / CKMB /
   Troponin-T:13/2/0.01, ALT / AST:26/35, Alk Phos / T Bili:238/1.3,
   Amylase / Lipase:73/127, Differential-Neuts:82.2 %, Band:0.0 %,
   Lymph:10.6 %, Mono:4.2 %, Eos:3.0 %, D-dimer:1569 ng/mL, Fibrinogen:620
   mg/dL, Lactic Acid:1.5 mmol/L, Albumin:3.4 g/dL, LDH:434 IU/L, Ca++:8.8
   mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Acute respiratory failure, persistent, post-op.
   RESPIRATORY FAILURE -- self-extubated [**2158-3-22**], slow progress, required
   near continuus BiPAP.  Multifactorial etiology for resp failure,
   predominately atalectasis, possible infiltrates (bilateral), leural
   effusions.  Underlying COPD.  COntinue to wean FiO2.
   C. diff enteritis -- monitor for evolving infection.  Evidence for C.
   Diff -->  Flagyl & Vanco --> continue.
   NAUSEA -- Abd exam unchanged and benign.  Likley multifactorial,
   including medications, resume TF slowly.
   HYPERNATREMIA -- resolved with repleted free H20 via infusion.  Monitor
   Na+
   ABNORMAL ECG -- inverted T-waves in lateral leads.  Monitor with
   clinical indications.
   TACHYCARDIA -- resolved.  Monitor.
   HYPOKALEMIA -- replete to >4.0
   RENAL FAILURE, ACUTE -- improved.  Tolerating net spontaneous diuresis.
   NUTRITIONAL SUPPORT -- TF
   ANEMIA SECONDARY TO BLOOD LOSS  -- persistent bleeding via [**Doctor Last Name 4888**]
   pouch --> expected post-op progess?  Surgery to f/u.
   PERITONITIS  -- wound infection, possible acalculous cholecystitis -->
   drain in place.
   CANCER, COLORECTAL (COLON CANCER) -- s/p surgical resection.
   PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 optimize meds.
   PHYSICAL THERAPY consult.  Transfer to floor soon.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2158-3-24**] 01:34 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2158-04-03 12:33:00 Physician Attending Progress Note
Chief Complaint: Resp distress; A-fib.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues to experience desaturation and A-fib with RVR --> required iv
   meteprolol, then iv Diltiazem infusion. and back on face mask.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2158-4-3**] 10:18 AM
   Metronidazole - [**2158-4-3**] 12:07 PM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Metoprolol - [**2158-4-3**] 08:26 AM
   Diltiazem - [**2158-4-3**] 09:03 AM
   Heparin Sodium (Prophylaxis) - [**2158-4-3**] 09:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-4-3**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.2
C (97.2
   HR: 78 (78 - 163) bpm
   BP: 95/48(59) {95/48(59) - 127/81(88)} mmHg
   RR: 29 (14 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98 kg (admission): 69.2 kg
   Height: 66 Inch
             Total In:
                                                                  1,126 mL
                                                                    764 mL
   PO:
             120 mL
   TF:
                                                                    751 mL
                                                                    296 mL
   IVF:
                                                                    320 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                  1,965 mL
                                                                  1,600 mL
   Urine:
                                                                    915 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
                                                                    700 mL
                                                                    250 mL
   Balance:
                                                                   -839 mL
                                                                   -836 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: 7.38/43/115/24/0
   PaO2 / FiO2: 192
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG; percutaneous biliary drain
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): place, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.6 g/dL
   365 K/uL
   115 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.6 mEq/L
   12 mg/dL
   112 mEq/L
   144 mEq/L
   29.7 %
   12.4 K/uL
        [image002.jpg]
                             [**2158-3-29**]  08:02 PM
                             [**2158-3-30**]  03:09 AM
                             [**2158-3-31**]  01:54 AM
                             [**2158-3-31**]  06:39 AM
                             [**2158-4-1**]  05:21 AM
                             [**2158-4-1**]  02:06 PM
                             [**2158-4-2**]  03:43 AM
                             [**2158-4-2**]  08:00 AM
                             [**2158-4-3**]  03:15 AM
                             [**2158-4-3**]  09:12 AM
   WBC
   14.6
   12.5
   14.2
   12.0
   16.0
   12.4
   Hct
   30.9
   33.8
   30.3
   27.3
   31.0
   34.3
   29.7
   Plt
   629
   663
   480
   398
   415
   365
   Cr
   0.5
   0.5
   0.4
   0.4
   0.4
   0.3
   0.4
   TCO2
   26
   Glucose
   161
   153
   139
   95
   100
   111
   115
   Other labs: PT / PTT / INR:15.0/27.8/1.3, CK / CKMB /
   Troponin-T:13/2/0.01, ALT / AST:26/35, Alk Phos / T Bili:238/1.3,
   Amylase / Lipase:73/127, Differential-Neuts:82.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:7.0 %, Eos:3.0 %, D-dimer:1569 ng/mL, Fibrinogen:620
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.4 g/dL, LDH:434 IU/L, Ca++:8.7
   mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Acute respiratory failure, persistent, post-op, now C. diff enteritis.
   RESPIRATORY FAILURE -- self-extubated [**2158-3-22**], slow progress, required
   near continuus BiPAP.  Multifactorial etiology for resp failure,
   predominately atalectasis, possible infiltrates (bilateral), pleural
   effusions.  Underlying COPD.  Continue to wean FiO2.
   C. diff enteritis -- Evidence for C. Diff -->  Flagyl & Vanco -->
   continue.
   NAUSEA -- Abd exam unchanged and benign.  Likley multifactorial,
   including medications, resume TF slowly.
   HYPERNATREMIA -- resolved with repleted free H20 via infusion.  Monitor
   Na+
   ABNORMAL ECG -- inverted T-waves in lateral leads.  Monitor with
   clinical indications.
   A-FIB
 likley precipitated by hypoxemic episode.  Now controlled on
   diltiazem drip.  Plan d/c drip and transition to po Diltiazem.
   HYPOKALEMIA -- replete to >4.0
   RENAL FAILURE, ACUTE -- improved.  Tolerating net spontaneous diuresis.
   NUTRITIONAL SUPPORT -- TF
   ANEMIA SECONDARY TO BLOOD LOSS  -- persistent bleeding via [**Doctor Last Name 4888**]
   pouch --> expected post-op progess?  Surgery to f/u.
   PERITONITIS  -- wound infection, possible acalculous cholecystitis -->
   drain in place.
   COLORECTAL  CANCER) -- s/p surgical resection.
   PAIN CONTROL
 optimize meds.
   PHYSICAL THERAPY consult.  Transfer to floor soon.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-4-3**] 09:29 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2158-3-24**] 01:34 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill